2145-11-26 06:36:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2145-11-25**] 10:00 AM
   Dr. [**Last Name (STitle) 10048**] [**Name (STitle) 10049**] assessed ekg
 BLOOD CULTURED - At [**2145-11-25**] 12:00 PM
 ARTERIAL LINE - START [**2145-11-25**] 01:09 PM
 ULTRASOUND - At [**2145-11-25**] 01:25 PM
   echocardiogram
 PA CATHETER - START [**2145-11-25**] 06:46 PM
 MULTI LUMEN - STOP [**2145-11-25**] 06:55 PM
 EKG - At [**2145-11-25**] 08:00 PM
 EKG - At [**2145-11-26**] 12:00 AM
 EKG - At [**2145-11-26**] 04:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Milrinone - 0.5 mcg/Kg/min
   Norepinephrine - 0.11 mcg/Kg/min
   Other ICU medications:
   Metoprolol - [**2145-11-26**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-26**] 06:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.9
   Tcurrent: 35.1
C (95.2
   HR: 144 (103 - 164) bpm
   BP: 85/68(73) {59/53(6) - 117/82(267)} mmHg
   RR: 20 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: MAT (Multifocal atrial tachycardia)
   Wgt (current): 75 kg (admission): 86.8 kg
   Height: 70 Inch
    CVP: 9 (7 - 20)mmHg
   Total In:
                                                                  4,360 mL
                                                                    902 mL
   PO:
   TF:
                                                                    943 mL
   IVF:
                                                                  3,417 mL
                                                                    902 mL
   Blood products:
   Total out:
                                                                  1,156 mL
                                                                    460 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  3,204 mL
                                                                    442 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.30/36/92.[**Numeric Identifier 641**]/16/-7
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   113 K/uL
   10.3 g/dL
   92 mg/dL
   1.0 mg/dL
   16 mEq/L
   5.0 mEq/L
   9 mg/dL
   112 mEq/L
   137 mEq/L
   29.9 %
   6.7 K/uL
        [image002.jpg]
                            [**2145-11-25**]  03:43 AM
                            [**2145-11-25**]  09:40 AM
                            [**2145-11-25**]  09:45 AM
                            [**2145-11-25**]  01:56 PM
                            [**2145-11-25**]  02:19 PM
                            [**2145-11-25**]  04:09 PM
                            [**2145-11-25**]  09:06 PM
                            [**2145-11-25**]  09:20 PM
                            [**2145-11-26**]  02:49 AM
                            [**2145-11-26**]  06:16 AM
   WBC
   5.7
   5.9
   6.7
   Hct
   30.7
   31.4
   29.9
   Plt
   95
   116
   113
   Cr
   0.7
   0.8
   1.0
   1.0
   TropT
   12.37
   10.33
   12.83
   13.97
   TCO2
   21
   19
   18
   18
   18
   Glucose
   124
   142
   146
   187
   92
   Other labs: PT / PTT / INR:11.8/50.1/1.0, CK / CKMB /
   Troponin-T:124/28/13.97, ALT / AST:63/49, Alk Phos / T Bili:85/1.1,
   Amylase / Lipase:17/, Differential-Neuts:88.1 %, Lymph:5.5 %, Mono:3.3
   %, Eos:2.8 %, Fibrinogen:311 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.4
   g/dL, LDH:650 IU/L, Ca++:8.0 mg/dL, Mg++:2.1 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 SHOCK, CARDIOGENIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 MUSCLE PERFORMACE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPOTENSION (NOT SHOCK)
 TRANSPLANT, LIVER
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-11-14**] 09:00 PM
   Arterial Line - [**2145-11-25**] 01:09 PM
   PA Catheter - [**2145-11-25**] 06:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-11-27 06:50:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2145-11-26**] 09:04 PM
   - Dr. [**First Name (STitle) **] wanted to keep milrinone at 0.5 and changed to neo to
   maintain maps >60
   - restarted TF
   - nutritional def: sent labs and started thiamine IV 100mg, l-carnitine
   1g IV TID x24hrs then 990mg TID po there after, selenious acid 60mcg IV
   daily
   - pt with episodes of HR 160-180, improved with 2.5mg IV lopressor
   - tacro level 14.3 --> 2mg pm and 3mg in am. Transplant to place order.
   - pt with small amount of melena. Hct stable at 28.7. Spoke with
   Hepatology and Transplant. Will monitor Hct and started Protonix 40mg
   Q12.
   - Mix Venous O2: 63-59
   - titrating up neo overnight to maintain MAPS >60
   - pt worsening tachycardia overnight, trending up to 150 --> gave 2.5mg
   lopressor at 3am with some improvement and then trended back up
   - 6am pt with another run of HR 160-180's, 2.5mg IV lopressor with
   improvement in rate to 140. Pt MAPS low in the 50's. Start vasopressin
   at 2.4.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2145-11-26**] 08:00 AM
   Infusions:
   Heparin Sodium - 700 units/hour
   Phenylephrine - 4 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Famotidine (Pepcid) - [**2145-11-26**] 10:00 AM
   Metoprolol - [**2145-11-26**] 11:55 AM
   Pantoprazole (Protonix) - [**2145-11-26**] 05:35 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-27**] 06:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 36.7
C (98
   HR: 180 (114 - 180) bpm
   BP: 79/54(63) {73/52(60) - 91/68(74)} mmHg
   RR: 19 (12 - 23) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80 kg (admission): 86.8 kg
   Height: 70 Inch
    CVP: 19 (6 - 19)mmHg
   PAP: (19 mmHg) / (16 mmHg)
   CO/CI (Fick): (5.4 L/min) / (2.6 L/min/m2)
   Mixed Venous O2% Sat: 59 - 63
   Total In:
                                                                  3,975 mL
                                                                  1,321 mL
   PO:
   TF:
                                                                    600 mL
                                                                    292 mL
   IVF:
                                                                  3,025 mL
                                                                    969 mL
   Blood products:
   Total out:
                                                                  3,926 mL
                                                                    953 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                     49 mL
                                                                    368 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.43/35/109/22/0
   Physical Examination
   GENERAL: ill appearing.
   HEENT: NCAT. Sclera anicteric. PERRL. dry MM.
   NECK: unable to assess JVP 2/2 lines.
   CARDIAC: distant heart sounds. fast, regular rate. normal S1, S2. No no
   r/g. soft SEM at apex.
   LUNGS:  crackles at bases bilat. no wheezes or rhonchi.
   ABDOMEN: +chevron scar, healing well. Soft, Distended.  unable to
   discern tenderness.
   EXTREMITIES: no edema. No c/c.
   PULSES:
   Right: Carotid 2+ DP 2+ PT 2+
   Left: Carotid 2+ DP 2+ PT 2+
   NEURO:  PERRLA. Somnolent but arousable to voice and pain. not
   following commands. incoherent, slurred speech. oriented x0.  moves all
   4 extremeties.
   Labs / Radiology
   129 K/uL
   9.2 g/dL
   120 mg/dL
   0.7 mg/dL
   22 mEq/L
   4.1 mEq/L
   7 mg/dL
   104 mEq/L
   135 mEq/L
   25.9 %
   5.8 K/uL
        [image002.jpg]
                            [**2145-11-26**]  02:49 AM
                            [**2145-11-26**]  06:16 AM
                            [**2145-11-26**]  09:30 AM
                            [**2145-11-26**]  09:32 AM
                            [**2145-11-26**]  03:30 PM
                            [**2145-11-26**]  03:53 PM
                            [**2145-11-26**]  07:47 PM
                            [**2145-11-26**]  08:10 PM
                            [**2145-11-27**]  01:11 AM
                            [**2145-11-27**]  02:03 AM
   WBC
   6.7
   6.3
   6.4
   5.8
   Hct
   29.9
   28.7
   27.4
   25.9
   Plt
   113
   139
   137
   129
   Cr
   1.0
   0.8
   0.8
   0.7
   0.7
   TropT
   13.97
   TCO2
   18
   19
   20
   22
   24
   Glucose
   92
   114
   142
   117
   120
   Other labs: PT / PTT / INR:11.9/47.5/1.0, CK / CKMB /
   Troponin-T:124/28/13.97, ALT / AST:54/48, Alk Phos / T Bili:79/1.1,
   Amylase / Lipase:17/, Differential-Neuts:70.5 %, Lymph:24.6 %, Mono:3.2
   %, Eos:1.6 %, Fibrinogen:311 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.4
   g/dL, LDH:666 IU/L, Ca++:8.1 mg/dL, Mg++:1.7 mg/dL, PO4:1.4 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 SHOCK, CARDIOGENIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 MUSCLE PERFORMACE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPOTENSION (NOT SHOCK)
 TRANSPLANT, LIVER
 IMPAIRED SKIN INTEGRITY
   ASSESSMENT AND PLAN: Mr. [**Known lastname 8206**] is a 57 yo man with alcoholic
   cirrhosis c/b hepatorenal syndrome requiring HD and hepatopulmonary
   syndrome and HTN s/p liver transplant on [**2145-11-15**], with anuric renal
   failure post-op on CVVH who has had a very prolonged hospital course.
   He is transferred to the CCU for management of new cardiomyopathy and
   NTEMI.
   .
   # Shock - Cardiogenic most likely eitology.  Newly depressed EF to 10%
   most likely secondary to post-transplant cardiomyopathy. Unlikely pt
   had an ischemic event .  Other possibilities include a
   tachy-cardiomyopathy or nutritional def.  Patient on immunosuppression
   and so concern for infection is high.  Pt likely will not mount WBC or
   spike fever given immunosuppression.  CXR w/o e/o PNA.   Pt BP has been
   support with neo and now vasopressin.  Pt also with melena overnight
   and decrease in Hct to 25.9.
   - phenylephrine and vasopressin titrate to MAP>60
   - milrinone drip at 0.5.
   - fup cultures, will discuss initiating antibiotics given worsening
   tachycardia and hypotension.
   - goal CVP<20
   - pt started on selenium, thiamine and carnitine replacement
   .
   .
   # Atrial tachycardia - Patient was in sinus tach earlier and abrupt
   entry into most likely in an atrial tach with 1:1 conduction currently.
   - lopressor 2.5 mg IV prn to maintain HR <160
   - monitor on tele.
   .
   # Liver failure [**1-4**] alcholic cirrohsis - s/p liver transplant on [**11-15**],
   now POD 11.  Pt continues to be very encephalopathic. LFTs remain
   stable.  Recent liver U/S shows patent blood flow.
   - transplant surgery & hepatology recs appreciated
   - continue prednisone 20mg PO daily
   - continue cellcept 1000mg PO BID
   - continue tacrolimus, redose daily based on level.  check tacrolimus
   level daily at 6 am.
   - monitor LFTs Q12 hours.
   - cont prophylaxis with fluconazole, valganclovir and bactrim
   - liver team recommended the following labs: f/u Influenza swab, CMV VL
   & TFTs, selenium, thiamine, L-carnitine
   .
   # Anuric renal failure - most likely secondary to hepatorenal syndrome
   - renal recs appreciated.
   - continue CVVH for now during transfusion, but consider holding and
   seeing if BP improves
   - lytes repletion per renal scale; per renal aggressively replete phos
   for now.
   - straight cath every other day.
   .
   # Acute on Chronic Anemia - Hct lower to 25.9 last transfusion on
   [**2145-11-23**] after hematocrit slowly drifted down [**1-4**] oozing from incision
   & repeated phlebotomy. Pt with small amount of melena overnight. Pt h/o
   variceal bleeding.
   - Transfuse to goal Hct >30
   - IV protonix 40mg Q12
   - continue EPO 4000 units
   - monitor Hct daily
   .
   # Hyperglycemia: patient not known diabetic, but elevated blood sugars
   on steroids.  Pt on NPH 4 units [**Hospital1 **] and sliding scale.
   - continue current regimen.  monitor FS.
   .
   # Hepatic vein thrombosis: s/p thrombectomy prior to surgery.
   - continue heparin gtt with goal PTT 50
   .
   # Thrombocytopenia: platelets low at 116 but trending up more
   recently.  last Plt transfusion [**11-20**].  HIT ab neg in past.
   - cont to monitor. transfuse to keep plt>50
   .
   # Encephalopathy: per surgical team, patient at baseline mental status.
   alert, arousable to voice. intermintently following commands.  no focal
   deficits; MAE.   Pt slightly more somnolent compared to previous
   possibly [**1-4**] hypotension. Portuguese is 1st language.
   - continue to monitor exam.
   .
   FEN: dophoff in place.  Pt on TF.  .
   .
   ACCESS: left subclavian temp dialysis
   left cordis IJ - swan floated.
   right radial A line
   .
   PROPHYLAXIS:
   -ulcer ppx
 IV PPI
   -DVT ppx - heparin gtt
   -Bowel regimen with colace
   .
   CODE: full
   .
   COMM: with patient and wife.
   .
   DISPO: CCU for now

2145-11-28 08:18:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Milrinone weaned early in am in reponse to HR 160s to 0.3 with little
   immediate effect on CI which remained above 2 until early afternoon.
   - 1 u prbc given to achieve goal HCT of 30 and CVP~20
   - CI as calc by FICK and vigileo began to decline in afternoon. Hct
   bumped appropriately and CVVH running 150+ per hr, but CVP declining to
   12 despite these (potentially large fluid losses in stool).
   - Milrinone increased to 0.5 again with only partial recovery of CI,
   boluses given to maintain CVP >15 (total of 3L NS in addition to net
   positive balance from CVVH/drips)
   - Milrinone then increased to 0.6, last fick 1.7-1.8, last vigileo 2.5
   - increasing resp acidosis at times, although metal status not
   significantly changed.
   - differing opinions from pharmacy re: milrinone in CVVH: per one team,
   no dose adjustment necessary, per other, CVVH half-life is
   significantly longer.
   In summary:
   - Cardiac index declined several hours after Milrinone dose was
   decreased from 0.5 to 0.3 and only partially recovered with increases
   in CVP. Milrinone now at 0.6 and CI still lower than it was yesterday.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2145-11-26**] 08:00 AM
   Infusions:
   Phenylephrine - 3 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Milrinone - 0.6 mcg/Kg/min
   Heparin Sodium - 700 units/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-28**] 08:17 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.2
C (97.2
   HR: 157 (140 - 160) bpm
   BP: 72/55(61) {70/50(59) - 88/69(77)} mmHg
   RR: 14 (11 - 27) insp/min
   SpO2: 96%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80 kg (admission): 86.8 kg
   Height: 70 Inch
    CVP: 12 (11 - 16)mmHg
   PAP: (15 mmHg) / (10 mmHg)
   CO/CI (Fick): (3.5 L/min) / (1.7 L/min/m2)
   Mixed Venous O2% Sat: 35 - 49
   Total In:
                                                                  6,790 mL
                                                                  3,782 mL
   PO:
   TF:
                                                                  1,057 mL
                                                                    366 mL
   IVF:
                                                                  5,173 mL
                                                                  3,236 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  4,460 mL
                                                                  1,397 mL
   Urine:
   NG:
   Stool:
                                                                    550 mL
   Drains:
   Balance:
                                                                  2,330 mL
                                                                  2,385 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 96%
   ABG: 7.34/43/72/23/-2
   Physical Examination
   General Appearance: Anxious
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Cool
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   160 K/uL
   9.6
   132 mg/dL
   0.7 mg/dL
   23 mEq/L
    3.8 mEq/L
   5 mg/dL
   104 mEq/L
   137 mEq/L
   29
   6.2 K/uL
        [image002.jpg]
                            [**2145-11-27**]  01:41 PM
                            [**2145-11-27**]  01:55 PM
                            [**2145-11-27**]  04:56 PM
                            [**2145-11-27**]  07:32 PM
                            [**2145-11-27**]  08:00 PM
                            [**2145-11-28**]  12:45 AM
                            [**2145-11-28**]  12:48 AM
                            [**2145-11-28**]  02:33 AM
                            [**2145-11-28**]  02:50 AM
                            [**2145-11-28**]  04:52 AM
   WBC
   6.2
   Hct
   29.5
   30.2
   29
   Plt
   160
   Cr
   0.7
   0.7
   TropT
   10.65
   8.29
   TCO2
   27
   25
   26
   24
   Glucose
   94
   113
   135
   132
   Other labs: PT / PTT / INR:12.7/68.6/1.1, CK / CKMB /
   Troponin-T:93/28/8.29, ALT / AST:54/46, Alk Phos / T Bili:82/1.0,
   Amylase / Lipase:17/, Differential-Neuts:72.7 %, Lymph:20.8 %, Mono:3.4
   %, Eos:2.6 %, Fibrinogen:311 mg/dL, Lactic Acid:1.3 mmol/L, Albumin:2.6
   g/dL, LDH:661 IU/L, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Imaging: cxr pending
   Microbiology: BCX pending all NGTD
   CMV VL pENDING
   cdiff negative
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 SHOCK, CARDIOGENIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 MUSCLE PERFORMACE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPOTENSION (NOT SHOCK)
 TRANSPLANT, LIVER
 IMPAIRED SKIN INTEGRITY
   ASSESSMENT AND PLAN: Mr. [**Known lastname 8206**] is a 57 yo man with alcoholic
   cirrhosis c/b hepatorenal syndrome requiring HD and hepatopulmonary
   syndrome and HTN s/p liver transplant on [**2145-11-15**], with anuric renal
   failure post-op on CVVH who has had a very prolonged hospital course.
   He is transferred to the CCU for management of new cardiomyopathy and
   NTEMI.
   .
   # Shock - Cardiogenic most likely eitology.  Newly depressed EF to 10%
   most likely secondary to post-transplant cardiomyopathy. Unlikely pt
   had an ischemic event .  Other possibilities include a
   tachy-cardiomyopathy or nutritional def.  If related to transplant,
   would expect spontaneous recovery if supportive measures sufficient
   (time line unclear)
   - milrinone drip at 0.6 currently: pharmacy will get back to us
   regarding the half-life of milrinone on CVVH assuming a GFR of 30; it
   is definitely prolonged, but the question remains to what
   degree
crucial in trending cardiac index in response to our milrinone
   dose adjustments.
   - f/u cultures, will continue to discuss initiating antibiotics given
   worsening tachycardia and hypotension.
   - goal CVP: 15-20
   - pt on selenium, thiamine and carnitine replacement
   - plan to discuss case with Dr. [**First Name (STitle) **] this pm. Liver Transplant team
   raised question of Cardiac Transplant
   - HR control yesterday with lopressor did not seem to improve MAP or
   cardiac index. Seems to be tolerating tachycardia: would avoid rate
   control unless persistently above 170.
   .
   .
   # Atrial tachycardia - Patient was in sinus tach earlier and abrupt
   entry into most likely in an atrial tach with 1:1 conduction currently.
   Seems to alternate btw both with similar rates.
   - lopressor 2.5 mg IV prn to maintain HR <180; not necessary yesterday
   as HR generally 150-160
   - monitor on tele.
   .
   # Liver failure [**1-4**] alcholic cirrohsis - s/p liver transplant on [**11-15**],
   now POD 12?.  Pt continues to be very. LFTs remain stable.  Recent
   liver U/S shows patent blood flow.
   - transplant surgery & hepatology recs appreciated
   - continue prednisone 20mg PO daily
   - continue cellcept 1000mg PO BID
   - continue tacrolimus, redose daily based on level.  check tacrolimus
   level daily at 6 am per Tx team.
   - monitor LFTs Q12 hours.
   - cont prophylaxis with fluconazole, valganclovir (dose confirmed with
   pharmacy) and bactrim
   .
   # Anuric renal failure - most likely secondary to hepatorenal syndrome
   - renal recs appreciated.
   - continue CVVH for now during transfusion, but consider holding and
   seeing if BP improves
   - lytes repletion per renal scale; per renal aggressively replete phos
   - straight cath every other day.
   .
   # Acute on Chronic Anemia
 bumped appropriately to one unit yesterday.
   - Transfuse to goal Hct >30
   - IV protonix 40mg Q12
   - continue EPO 4000 units
   - monitor Hct daily
   .
   # Hyperglycemia: patient not known diabetic, but elevated blood sugars
   on steroids.  Pt on NPH 4 units [**Hospital1 **] and sliding scale.
   - continue current regimen.  monitor FS.
   .
   # Hepatic vein thrombosis: s/p thrombectomy prior to surgery.
   - continue heparin gtt with goal PTT 50
   .
   # Thrombocytopenia: platelets low at 116 but trending up more
   recently.  last Plt transfusion [**11-20**].  HIT ab neg in past.
   - cont to monitor. transfuse to keep plt>50
   .
   # Encephalopathy: per surgical team, patient at baseline mental status.
   alert, arousable to voice. intermintently following commands.
   Portuguese is 1st language.  Seems to be slightly more alert went
   cardiac index is higher suggesting that some componenet of
   encephalopathy might be hypoperfusion.
   - continue to monitor exam.
   .
   FEN: Pt on TF.  .
   .
   ACCESS: left subclavian temp dialysis
   left cordis IJ - swan in RA.
   right radial A line
   .
   PROPHYLAXIS:
   -ulcer ppx
 IV PPI
   -DVT ppx - heparin gtt
   -Bowel regimen with colace
   .
   CODE: full
   .
   COMM: with patient and wife.
   .
   DISPO: CCU for now
   MAP
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2145-11-27**] 11:07 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-11-14**] 09:00 PM
   Arterial Line - [**2145-11-25**] 01:09 PM
   PA Catheter - [**2145-11-25**] 06:46 PM
   Prophylaxis:
   DVT: (Systemic anticoagulation: Heparin gtt)
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2145-11-29 07:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2145-11-29**] 05:30 AM
   pt noted to have HR trend up to 180's- EKG obtained- dropped milrinone
   to 0.5 from 0.6
   -pharmacy stated est GFR on CVVH & ultrafiltration is 30 and that
   ideally milrinone gtt should not be above 0.3; however CI decreased
   significantly on that level.
   - [**Doctor Last Name **] recs: need swan. Echo tomorrow.  RHF worse than LHF so high CVP
   is important.  Goal to keep CVP near 20 but not over per transplant.
   - PA cath placed successfully under flouro in CCU.  PAP 36/28, PCWP 26,
   RVP (not obtained), RAP 19, CI= 1.6
   - HR up to 175 - got lopressor 2.5mg IV with transient improvement in
   HR but substantial drop in BP. Had to inc phenlyephrine to 8.
   - fluid boluses 1L to keep CVP just below 20.
   - PTT 40 - Inc hep gtt to 800, (3am PTT not a true one); look at 0900
   PTT to decided on hep gtt changes.
   - LFTs trending up
   - able to wean phenylepiphrine back down to 3 with some improvement in
   CI on thermodilution (1.9)
   - HR back up to 180s at 5am. EKG done. Decreased milrinone from 0.6 to
   0.5.  will recheck Fick/thermodilution.
   TITLE:
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2145-11-26**] 08:00 AM
   Cefazolin - [**2145-11-28**] 08:53 PM
   Infusions:
   Heparin Sodium - 800 units/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 3 mcg/Kg/min
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-29**] 06:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.4
C (97.5
   HR: 163 (125 - 183) bpm
   BP: 80/61(66) {69/51(58) - 87/67(74)} mmHg
   RR: 22 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80 kg (admission): 86.8 kg
   Height: 70 Inch
    CVP: 19 (11 - 20)mmHg
   PAP: (34 mmHg) / (27 mmHg)
   PCWP: 27 (27 - 27) mmHg
   CO/CI (Thermodilution): (3.58 L/min) / (1.9 L/min/m2)
   CO/CI (Fick): (3.4 L/min) / (1.7 L/min/m2)
   SVR: 1,000 dynes*sec/cm5
   Mixed Venous O2% Sat: 34 - 42
   SV: 22 mL
   SVI: 11 mL/m2
   Total In:
                                                                  6,968 mL
                                                                  1,134 mL
   PO:
   TF:
                                                                    947 mL
                                                                    314 mL
   IVF:
                                                                  5,720 mL
                                                                    821 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                  1,112 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,658 mL
                                                                     22 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.36/44/77/26/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   151 K/uL
   9.0 g/dL
   143 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.7 mEq/L
   6 mg/dL
   100 mEq/L
   134 mEq/L
   27.6 %
   5.4 K/uL
        [image002.jpg]
                            [**2145-11-28**]  04:52 AM
                            [**2145-11-28**]  08:07 AM
                            [**2145-11-28**]  08:35 AM
                            [**2145-11-28**]  02:26 PM
                            [**2145-11-28**]  02:46 PM
                            [**2145-11-28**]  02:53 PM
                            [**2145-11-28**]  05:56 PM
                            [**2145-11-28**]  09:37 PM
                            [**2145-11-29**]  02:50 AM
                            [**2145-11-29**]  03:12 AM
   WBC
   5.6
   6.4
   5.7
   5.4
   Hct
   28.5
   29.6
   31
   31
   28.1
   27.6
   Plt
   148
   149
   137
   151
   Cr
   0.7
   0.7
   0.8
   0.8
   TropT
   8.99
   10.45
   TCO2
   23
   22
   26
   26
   Glucose
   132
   146
   126
   121
   160
   143
   Other labs: PT / PTT / INR:13.8/76.2/1.2, CK / CKMB /
   Troponin-T:82/28/10.45, ALT / AST:142/125, Alk Phos / T Bili:89/1.3,
   Amylase / Lipase:17/, Differential-Neuts:72.7 %, Lymph:20.8 %, Mono:3.4
   %, Eos:2.6 %, Fibrinogen:311 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.8
   g/dL, LDH:849 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
 GASTROINTESTINAL BLEED, OTHER (GI BLEED, GIB)
 RENAL FAILURE, CHRONIC (CHRONIC RENAL FAILURE, CRF, CHRONIC KIDNEY
   DISEASE)
 SHOCK, CARDIOGENIC
 ANEMIA, ACUTE, SECONDARY TO BLOOD LOSS (HEMORRHAGE, BLEEDING)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 2**])
 MUSCLE PERFORMACE, IMPAIRED
 KNOWLEDGE, IMPAIRED
 RANGE OF MOTION, IMPAIRED
 TRANSFERS, IMPAIRED
 HYPOTENSION (NOT SHOCK)
 TRANSPLANT, LIVER
 IMPAIRED SKIN INTEGRITY
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2145-11-28**] 07:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-11-14**] 09:00 PM
   Arterial Line - [**2145-11-25**] 01:09 PM
   PA Catheter - [**2145-11-25**] 06:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2145-11-29**] 05:30 AM
   pt noted to have HR trend up to 180's- EKG obtained- dropped milrinone
   to 0.5 from 0.6
   -pharmacy stated est GFR on CVVH & ultrafiltration is 30 and that
   ideally milrinone gtt should not be above 0.3; however CI decreased
   significantly on that level.
   - [**Doctor Last Name **] recs: need swan. Echo tomorrow.  RHF worse than LHF so high CVP
   is important.  Goal to keep CVP near 20 but not over per transplant.
   - PA cath placed successfully under flouro in CCU.  PAP 36/28, PCWP 26,
   RVP (not obtained), RAP 19, CI= 1.6
   - HR up to 175 - got lopressor 2.5mg IV with transient improvement in
   HR but substantial drop in BP. Had to inc phenlyephrine to 8.
   - fluid boluses 1L to keep CVP just below 20.
   - PTT 40 - Inc hep gtt to 800, (3am PTT not a true one); look at 0900
   PTT to decided on hep gtt changes.
   - LFTs trending up
   - able to wean phenylepiphrine back down to 3 with some improvement in
   CI on thermodilution (1.9)
   - HR back up to 180s at 5am. EKG done. Decreased milrinone from 0.6 to
   0.5.  will recheck Fick/thermodilution.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2145-11-26**] 08:00 AM
   Cefazolin - [**2145-11-28**] 08:53 PM
   Infusions:
   Heparin Sodium - 800 units/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 3 mcg/Kg/min
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-29**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.2
C (100.8
   Tcurrent: 36.4
C (97.5
   HR: 163 (125 - 183) bpm
   BP: 80/61(66) {69/51(58) - 87/67(74)} mmHg
   RR: 22 (14 - 26) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80 kg (admission): 86.8 kg
   Height: 70 Inch
    CVP: 19 (11 - 20)mmHg
   PAP: (34 mmHg) / (27 mmHg)
   PCWP: 27 (27 - 27) mmHg
   CO/CI (Thermodilution): (3.58 L/min) / (1.9 L/min/m2)
   CO/CI (Fick): (3.4 L/min) / (1.7 L/min/m2)
   SVR: 1,063 dynes*sec/cm5
   Mixed Venous O2% Sat: 34 - 42
   SV: 22 mL
   SVI: 11 mL/m2
   Total In:
                                                                  6,968 mL
                                                                  1,146 mL
   PO:
   TF:
                                                                    947 mL
                                                                    317 mL
   IVF:
                                                                  5,720 mL
                                                                    830 mL
   Blood products:
   Total out:
                                                                  4,310 mL
                                                                  1,112 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,658 mL
                                                                     34 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.36/44/77/26/0
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   151 K/uL
   9.0 g/dL
   143 mg/dL
   0.8 mg/dL
   26 mEq/L
   3.7 mEq/L
   6 mg/dL
   100 mEq/L
   134 mEq/L
   27.6 %
   5.4 K/uL
        [image002.jpg]
                            [**2145-11-28**]  04:52 AM
                            [**2145-11-28**]  08:07 AM
                            [**2145-11-28**]  08:35 AM
                            [**2145-11-28**]  02:26 PM
                            [**2145-11-28**]  02:46 PM
                            [**2145-11-28**]  02:53 PM
                            [**2145-11-28**]  05:56 PM
                            [**2145-11-28**]  09:37 PM
                            [**2145-11-29**]  02:50 AM
                            [**2145-11-29**]  03:12 AM
   WBC
   5.6
   6.4
   5.7
   5.4
   Hct
   28.5
   29.6
   31
   31
   28.1
   27.6
   Plt
   148
   149
   137
   151
   Cr
   0.7
   0.7
   0.8
   0.8
   TropT
   8.99
   10.45
   TCO2
   23
   22
   26
   26
   Glucose
   132
   146
   126
   121
   160
   143
   Other labs: PT / PTT / INR:13.8/76.2/1.2, CK / CKMB /
   Troponin-T:82/28/10.45, ALT / AST:142/125, Alk Phos / T Bili:89/1.3,
   Amylase / Lipase:17/, Differential-Neuts:72.7 %, Lymph:20.8 %, Mono:3.4
   %, Eos:2.6 %, Fibrinogen:311 mg/dL, Lactic Acid:1.6 mmol/L, Albumin:2.8
   g/dL, LDH:849 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:1.9 mg/dL
   Assessment and Plan
   ASSESSMENT AND PLAN: Mr. [**Known lastname 8206**] is a 57 yo man with alcoholic
   cirrhosis c/b hepatorenal syndrome requiring HD and hepatopulmonary
   syndrome and HTN s/p liver transplant on [**2145-11-15**], with anuric renal
   failure post-op on CVVH who has had a very prolonged hospital course.
   He is transferred to the CCU for management of new cardiomyopathy and
   NTEMI.
   .
   # Shock - Cardiogenic most likely eitology.  Newly depressed EF to 10%
   most likely secondary to post-transplant cardiomyopathy. Unlikely pt
   had an ischemic event .  Other possibilities include a
   tachy-cardiomyopathy or nutritional def.  If related to transplant,
   would expect spontaneous recovery if supportive measures sufficient
   (time line unclear)
   - milrinone drip at 0.6 currently: pharmacy will get back to us
   regarding the half-life of milrinone on CVVH assuming a GFR of 30; it
   is definitely prolonged, but the question remains to what
   degree
crucial in trending cardiac index in response to our milrinone
   dose adjustments.
   - f/u cultures, will continue to discuss initiating antibiotics given
   worsening tachycardia and hypotension.
   - goal CVP: 15-20
   - pt on selenium, thiamine and carnitine replacement
   - plan to discuss case with Dr. [**First Name (STitle) **] this pm. Liver Transplant team
   raised question of Cardiac Transplant
   - HR control yesterday with lopressor did not seem to improve MAP or
   cardiac index. Seems to be tolerating tachycardia: would avoid rate
   control unless persistently above 170.
   .
   .
   # Atrial tachycardia - Patient was in sinus tach earlier and abrupt
   entry into most likely in an atrial tach with 1:1 conduction currently.
   Seems to alternate btw both with similar rates.
   - lopressor 2.5 mg IV prn to maintain HR <180; not necessary yesterday
   as HR generally 150-160
   - monitor on tele.
   .
   # Liver failure [**1-4**] alcholic cirrohsis - s/p liver transplant on [**11-15**],
   now POD 12?.  Pt continues to be very. LFTs remain stable.  Recent
   liver U/S shows patent blood flow.
   - transplant surgery & hepatology recs appreciated
   - continue prednisone 20mg PO daily
   - continue cellcept 1000mg PO BID
   - continue tacrolimus, redose daily based on level.  check tacrolimus
   level daily at 6 am per Tx team.
   - monitor LFTs Q12 hours.
   - cont prophylaxis with fluconazole, valganclovir (dose confirmed with
   pharmacy) and bactrim
   .
   # Anuric renal failure - most likely secondary to hepatorenal syndrome
   - renal recs appreciated.
   - continue CVVH for now during transfusion, but consider holding and
   seeing if BP improves
   - lytes repletion per renal scale; per renal aggressively replete phos
   - straight cath every other day.
   .
   # Acute on Chronic Anemia
 bumped appropriately to one unit yesterday.
   - Transfuse to goal Hct >30
   - IV protonix 40mg Q12
   - continue EPO 4000 units
   - monitor Hct daily
   .
   # Hyperglycemia: patient not known diabetic, but elevated blood sugars
   on steroids.  Pt on NPH 4 units [**Hospital1 **] and sliding scale.
   - continue current regimen.  monitor FS.
   .
   # Hepatic vein thrombosis: s/p thrombectomy prior to surgery.
   - continue heparin gtt with goal PTT 50
   .
   # Thrombocytopenia: platelets low at 116 but trending up more
   recently.  last Plt transfusion [**11-20**].  HIT ab neg in past.
   - cont to monitor. transfuse to keep plt>50
   .
   # Encephalopathy: per surgical team, patient at baseline mental status.
   alert, arousable to voice. intermintently following commands.
   Portuguese is 1st language.  Seems to be slightly more alert went
   cardiac index is higher suggesting that some componenet of
   encephalopathy might be hypoperfusion.
   - continue to monitor exam.
   .
   FEN: Pt on TF.  .
   .
   ACCESS: left subclavian temp dialysis
   left cordis IJ - swan in RA.
   right radial A line
   .
   PROPHYLAXIS:
   -ulcer ppx
 IV PPI
   -DVT ppx - heparin gtt
   -Bowel regimen with colace
   .
   CODE: full
   .
   COMM: with patient and wife.
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2145-11-28**] 07:00 PM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-11-14**] 09:00 PM
   Arterial Line - [**2145-11-25**] 01:09 PM
   PA Catheter - [**2145-11-25**] 06:46 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-11-30 07:09:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 ARTERIAL LINE - START [**2145-11-29**] 02:00 PM
   Impella device  2.5 via right access 16Fr arterial 8 Fr venous
   P8
   Flow rate 2.3
   Purge pressure 411
   Aortic pressure waveform present
   Motor current waveform present
   Pump position screen- position unknown due to low pulsitility
   Dextrose 20 without heparin on cath lab quick set up
   [**11-29**]:
   - repeat Echo unimproved/ worsened since transfer to CCU
   - inserted impella to improve LV function but had little effect
   - nutrition recs: d/c IV selenium and carnitine, no need for TPN
   - repeat liver US/ doppler: 1. Patent hepatic vasculature.large left,
   small right pleural effusion. massive ascites
   - PT and OT going to sign-off; we can re-consult when needed
   - tried 2.5mg IV lopressor which transiently normalized HR but once
   again resulted low BP
   - tried loading with digoxin to increase CO and AVN block
   - transfused 1UpRBC
   - NPO after midnight for possible tandem heart placement tomorrow
   - transient desaturation with sats in 70s requiring NRB
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2145-11-28**] 08:53 PM
   Bactrim (SMX/TMP) - [**2145-11-29**] 08:00 AM
   Infusions:
   Heparin Sodium - 550 units/hour
   Vasopressin - 2.4 units/hour
   Milrinone - 0.5 mcg/Kg/min
   Phenylephrine - 3 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-11-29**] 08:00 AM
   Metoprolol - [**2145-11-29**] 03:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-11-30**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.5
C (97.7
   HR: 108 (108 - 163) bpm
   BP: 73/63(66) {65/55(58) - 85/77(78)} mmHg
   RR: 13 (12 - 30) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 80 kg (admission): 86.8 kg
   Height: 70 Inch
    CVP: 13 (9 - 21)mmHg
   PAP: (38 mmHg) / (10 mmHg)
   PCWP: 20 (20 - 27) mmHg
   CO/CI (Thermodilution): () / (1.1 L/min/m2)
   CO/CI (Fick): (4.4 L/min) / (2.1 L/min/m2)
   SVR: 2,188 dynes*sec/cm5
   Mixed Venous O2% Sat: 34 - 53
   SV: 16 mL
   SVI: 8 mL/m2
                                Total In:
                                                                  4,482 mL
                                                                  1,763 mL
   PO:
                                TF:
                                                                    776 mL
   IVF:
                                                                  3,391 mL
                                                                  1,453 mL
   Blood products:
                                                                    125 mL
                                                                    250 mL
   Total out:
                                                                  4,348 mL
                                                                  1,202 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                    134 mL
                                                                    561 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.34/33/77.[**Numeric Identifier **]/21/-6
   Physical Examination
   General Appearance: opens eyes spontaneously, nonverbal; is responding
   to verbal stimuli
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition
   Cardiovascular: tachycardic, S1, S2 no m/r/g
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: equal air entry b/l, no wheezes/ rhonchi/ crackles
   anteriorly
   Abdominal: Soft, Non-tender, NABS, surgical incision c/d/i
   Extremities: pitting edema to sacrum b/l, extremities cool/ well
   perfused
   Neurologic: No(t) Attentive, Responds to: Verbal stimuli, Movement: Not
   assessed, Tone: Not assessed
   Labs / Radiology
   138 K/uL
   8.9 g/dL
   138 mg/dL
   0.9 mg/dL
   21 mEq/L
   4.2 mEq/L
   8 mg/dL
   104 mEq/L
   136 mEq/L
   27.4 %
   6.3 K/uL
        [image002.jpg]
                            [**2145-11-29**]  03:20 PM
                            [**2145-11-29**]  03:41 PM
                            [**2145-11-29**]  03:47 PM
                            [**2145-11-29**]  05:16 PM
                            [**2145-11-29**]  06:05 PM
                            [**2145-11-29**]  08:20 PM
                            [**2145-11-29**]  10:44 PM
                            [**2145-11-29**]  11:20 PM
                            [**2145-11-30**]  03:55 AM
                            [**2145-11-30**]  06:27 AM
   Hct
   28.5
   27.4
   Plt
   138
   Cr
   0.8
   0.9
   TCO2
   22
   20
   20
   21
   19
   19
   Glucose
   198
   192
   138
   Other labs: PT / PTT / INR:14.6/51.3/1.3, CK / CKMB /
   Troponin-T:82/28/10.45, ALT / AST:281/285, Alk Phos / T Bili:84/1.6,
   Amylase / Lipase:17/, Differential-Neuts:72.7 %, Lymph:20.8 %, Mono:3.4
   %, Eos:2.6 %, Fibrinogen:311 mg/dL, Lactic Acid:1.5 mmol/L, Albumin:2.8
   g/dL, LDH:849 IU/L, Ca++:8.6 mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   [**11-29**] CXR: 1. Left IJ approach pulmonary arterial catheter tip
   positioned more distal than standard, probably within a segmental
   branch of the right pulmonary artery. Catheter could be withdrawn
   several centimeters for more optimal positioning. 2. Unchanged moderate
   right and small left pleural effusions. 3. Unchanged mild interstitial
   pulmonary edema.
   [**11-29**] TTE: Left ventricular wall thicknesses are normal. The left
   ventricular cavity is mildly dilated. There is severe global left
   ventricular hypokinesis (LVEF <15 %). No masses or thrombi are seen in
   the left ventricle. The right ventricular cavity is mildly dilated with
   severe global free wall hypokinesis. The aortic valve leaflets are
   mildly thickened (?#). The mitral valve leaflets are mildly thickened.
   Compared with the prior study (images reviewed) of [**2145-11-25**] the left
   ventricular cavity is now dilated with more impaired systolic function.
   Right ventricular cavity size is now larger with more prominent free
   wall hypokinesis. The heart rate is also greater.
   [**11-29**] RUQ U/S: 1. Patent hepatic vasculature. 2. Large right pleural
   effusion, small left pleural effusion and a massive amount of ascites
   within the abdomen.
   ASSESSMENT AND PLAN: Mr. [**Known lastname 8206**] is a 57 yo man with alcoholic
   cirrhosis c/b hepatorenal syndrome requiring HD and hepatopulmonary
   syndrome and HTN s/p liver transplant on [**2145-11-15**], with anuric renal
   failure post-op on CVVH who has had a very prolonged hospital course.
   He is transferred to the CCU for management of new cardiomyopathy with
   EF of 10%
   .
   # Shock
 Likely cardiogenic, given LV and RV dilation/hypokinesis.
   LVEF measured at <15%.  Believed to be secondary to post-transplant
   cardiomyopathy. Unlikely pt had an ischemic event .  Other
   possibilities include a tachy-cardiomyopathy or nutritional def.  If
   related to transplant, would expect spontaneous recovery if supportive
   measures sufficient (time line unclear).  Not improved on repeat Echo.
   Now s/p LVAD placement. Case discussed with cardiac transplant at [**Hospital **]
   Med Ctr, who feels patient not a candidate.
   - monitor hemodynamic: goal CI> 1.8, attempt to maintain CVP in low
   20s, MAP > 60
   - cont milirinone gtt with phenylephrine, vasopressin as needed.
   Consider trial of weaning phenylephrine for worsening liver function
   (see below)
   - consider placement of tandem heart, for additional right-sided
   support
   - f/u cultures, will continue to discuss initiating antibiotics given
   worsening tachycardia and hypotension.
   - pt on thiamine replacement
   - will continue digoxin at 0.125 mg QOD
   - refer EKG
s to EP, ?consider tachycardia exacerbating factor to
   cardiomyopathy.
   .
   # Atrial tachycardia - Patient was in sinus tach earlier and abrupt
   entry into most likely in an atrial tach with 1:1 conduction currently.
   Seems to alternate btw both with similar rates.  HR control yesterday
   with lopressor has lowered BP. Seems to be tolerating tachycardia:
   would avoid rate control unless persistently above 170.
   - consider lopressor 2.5 mg if HR consistently > 180s
   - monitor on tele
   .
   # Liver failure [**1-4**] alcholic cirrohsis - s/p liver transplant on
   [**11-15**].  LFTs drifting upwards in the setting of high pressor
   requirements. Hepatic vasculature patent per U/S.
   - consider weaning phenylephrine slowly to improve transplant perfusion
   - transplant surgery & hepatology recs appreciated
   - continue prednisone 20mg PO daily
   - continue cellcept 1000mg PO BID
   - continue tacrolimus, redose daily based on level.  check tacrolimus
   level daily at 6 am per Tx team.
   - monitor LFTs Q12 hours.
   - cont prophylaxis with fluconazole, valganclovir (dose confirmed with
   pharmacy) and bactrim
   .
   # Anuric renal failure - most likely secondary to hepatorenal syndrome.
   Per renal, HD line would ideally be changed (has been in ~3 weeks) but
   risks currently outweigh benefits, given tenuous cardiovascular status
   - renal recs appreciated.
   - continue CVVH for now, but consider holding and seeing if BP improves
   - lytes repletion per renal scale; per renal aggressively replete phos
   - straight cath every other day.
   .
   # Acute on Chronic Anemia
 bumped appropriately to one unit yesterday.
   - Transfuse to goal Hct >30
   - IV protonix 40mg Q12
   - continue EPO 4000 units
   - monitor Hct daily
   .
   # Hyperglycemia: patient not known diabetic, but elevated blood sugars
   on steroids.  Pt on NPH 4 units [**Hospital1 **] and sliding scale.
   - continue current regimen.  monitor FS.
   .
   # Hepatic vein thrombosis: s/p thrombectomy prior to surgery.
   - continue heparin gtt with goal PTT 50
   .
   # Thrombocytopenia: platelets stably low at 115. last Plt transfusion
   [**11-20**].  HIT ab neg in past.
   - cont to monitor. transfuse to keep plt>50
   .
   # Encephalopathy: per surgical team, patient at baseline mental status.
   alert, arousable to voice. intermintently following commands.
   Portuguese is 1st language.  Seems to be slightly more alert went
   cardiac index is higher suggesting that some componenet of
   encephalopathy might be hypoperfusion.
   - continue to monitor exam.
   .
   FEN: Pt on TF.  TPN not needed, per nutrition. NPO for now, for
   possible tandem heart. If no procedure, will resume tube feeds
   .
   ACCESS: left subclavian temp dialysis
   left cordis IJ - swan in RA.
   right radial A line
   .
   PROPHYLAXIS:
   -ulcer ppx
 IV PPI
   -DVT ppx - heparin gtt
   -Bowel regimen with colace prn
   .
   CODE: full
   .
   COMM: with patient and wife. [**Name (NI) **] attempt to have family come to
   hospital in next 1-2 days to discuss overall condition
   .
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-11-14**] 09:00 PM
   PA Catheter - [**2145-11-25**] 06:46 PM
   Arterial Line - [**2145-11-29**] 02:00 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2145-12-01 06:57:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - repeat bedside echo showed that the impella was in the inferolateral
   wall, pulled back
   - A-line re-placed
   - was persistently tachycardic to 160s
   - family meeting held, code status addressed, Dr. [**First Name (STitle) **] recommended
   DNR/DNI, but continue treatment (not CMO). Per surgery, intubation
   should be considered as possibility, if believed to be for finite
   period
   - neo weaned down from 3 to 2.2 as sBP improved from 70s to 90s
   - CVP goal 20, but it was around 13-15 most of the time
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Cefazolin - [**2145-11-28**] 08:53 PM
   Bactrim (SMX/TMP) - [**2145-11-29**] 08:00 AM
   Infusions:
   Heparin Sodium - 550 units/hour
   Phenylephrine - 2.2 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-11-30**] 08:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-1**] 06:57 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.9
C (100.2
   Tcurrent: 37.3
C (99.1
   HR: 168 (117 - 175) bpm
   BP: 74/58(63) {72/54(62) - 92/81(97)} mmHg
   RR: 30 (18 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 83.9 kg (admission): 86.8 kg
   Height: 70 Inch
    CVP: 12 (10 - 18)mmHg
   PAP: (30 mmHg) / (19 mmHg)
   PCWP: 20 (20 - 25) mmHg
   CO/CI (Thermodilution): (2.13 L/min) / (1.5 L/min/m2)
   CO/CI (Fick): (4.4 L/min) / (2.1 L/min/m2)
   SVR: 1,260 dynes*sec/cm5
   SvO2: 94%
   Mixed Venous O2% Sat: 47 - 59
   SV: 19 mL
   SVI: 9 mL/m2
   Total In:
                                                                  4,578 mL
                                                                    440 mL
   PO:
   TF:
                                                                    450 mL
   IVF:
                                                                  3,698 mL
                                                                    380 mL
   Blood products:
                                                                    250 mL
   Total out:
                                                                  1,525 mL
                                                                    100 mL
   Urine:
                                                                     10 mL
   NG:
   Stool:
                                                                    100 mL
                                                                    100 mL
   Drains:
   Balance:
                                                                  3,053 mL
                                                                    340 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.35/30/90.[**Numeric Identifier 433**]/19/-7
   Physical Examination
   GEN: Not responding to verbal stimuli. Minimal grimace to sternal rub.
   HEENT: Anicteric sclerae. MM moist.
   NECK: No appreciable JVD. Supple.
   CV: Tachycardic, regular, no murmurs or rubs appreciated
   LUNG: Bibasilar wet crackles. No increased work of breathing
   ABDOMEN: Soft, Unable to appreciate tenderness given mental status. No
   rebound tenderness or guarding. No pulsatile masses
   Peripheral Vascular: (Right radial pulse: diminished), (Left radial
   pulse: diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed). Feet cool.
   Skin:  Not assessed
   Neurologic: Responds to noxious stimuli
   Labs / Radiology
   104 K/uL
   9.3
   175 mg/dL
   1.0 mg/dL
   19 mEq/L
   4.5 mEq/L
   12 mg/dL
   108 mEq/L
   134 mEq/L
   28.1 %
   6.9 K/uL
        [image002.jpg]
                            [**2145-11-30**]  03:55 AM
                            [**2145-11-30**]  06:09 AM
                            [**2145-11-30**]  06:27 AM
                            [**2145-11-30**]  10:35 AM
                            [**2145-11-30**]  01:09 PM
                            [**2145-11-30**]  01:26 PM
                            [**2145-11-30**]  04:45 PM
                            [**2145-11-30**]  05:15 PM
                            [**2145-11-30**]  11:08 PM
                            [**2145-12-1**]  05:51 AM
   WBC
   7.6
   7.5
   6.9
   Hct
   30.5
   27.6
   29
   28.1
   Plt
   115
   92
   104
   Cr
   0.8
   0.9
   1.0
   TCO2
   19
   19
   10
   19
   18
   16
   17
   Glucose
   120
   161
   116
   175
   Other labs: PT / PTT / INR:15.1/53.0/1.3, CK / CKMB /
   Troponin-T:82/28/10.45, ALT / AST:320/592, Alk Phos / T Bili:89/3.6,
   Amylase / Lipase:17/, Differential-Neuts:72.7 %, Lymph:20.8 %, Mono:3.4
   %, Eos:2.6 %, Fibrinogen:311 mg/dL, Lactic Acid:1.0 mmol/L, Albumin:2.8
   g/dL, LDH:849 IU/L, Ca++:8.6 mg/dL, Mg++:2.2 mg/dL, PO4:2.0 mg/dL
   [**11-30**] CXR: Worsening pulmonary edema with increasing right pleural
   effusion which is large
   [**11-30**] TTE: Left ventricular wall thicknesses and cavity size are normal
   with severe global hypokinesis (LVEF <15%). No masses or thrombi are
   seen in the left ventricle. The right ventricular cavity is moderately
   dilated with moderate global free wall hypokinesis. Moderate [2+]
   tricuspid regurgitation is seen. There is mild pulmonary artery
   systolic hypertension. There is a trivial/physiologic pericardial
   effusion.
   At scan initiation the Impella device is crossing the aortic valve and
   extending to/into the inferior wall of the left ventricle. The device
   is subsequenty slight withdrawn. At the end of the study, the device
   appears to be fully within the left ventricular cavity and not to
   impede full opening of the mitral valve.
   Compared with the prior study of [**2145-11-29**] (images reviewed), the left
   ventricular cavity is slightly smaller. Biventricular systolic function
   is similar
   Assessment and Plan
   ASSESSMENT AND PLAN: Mr. [**Known lastname 8206**] is a 57 yo man with alcoholic
   cirrhosis c/b hepatorenal syndrome requiring HD and hepatopulmonary
   syndrome and HTN s/p liver transplant on [**2145-11-15**], with anuric renal
   failure post-op on CVVH who has had a very prolonged hospital course.
   He is transferred to the CCU for management of new cardiomyopathy with
   EF of 10%
   .
   # Shock
 Likely cardiogenic, given LV and RV dilation/hypokinesis.
   LVEF consistently measured at <15%.  Potential septic component given
   low grade fever, but WBC normal and cultures unrevealing. Pressor
   requirement decreased minimally yesterday. Believed to be secondary to
   post-transplant cardiomyopathy. Unlikely pt had an ischemic event .
   Other possibilities include a tachy-cardiomyopathy or nutritional def.
   If related to transplant, would expect spontaneous recovery if
   supportive measures sufficient (time line unclear).  S/p LVAD
   placement. Case discussed with cardiac transplant at [**Hospital **] Med Ctr, who
   feels patient not a candidate. Considering tandem heart assist.
   - monitor hemodynamic: goal CI> 1.8, attempt to maintain CVP in low
   20s, MAP > 60
   - cont milirinone gtt with phenylephrine, vasopressin as needed. If
   hemodynamics acceptable, can consider weaning phenylephrine further,
   for worsening liver function (see below)
   - consider placement of tandem heart, for additional right-sided
   support
   - f/u cultures, low threshold to start antibiotics
   - c/w thiamine replacement
   - c/w digoxin at 0.125 mg QOD
   - refer EKG
s to EP, ?consider tachycardia exacerbating factor to
   cardiomyopathy.
   .
   # Atrial tachycardia
 Exact etiology unclear. [**Name2 (NI) **] was in sinus
   tach earlier and abrupt entry into most likely in an atrial tach with
   1:1 conduction currently. Seems to be tolerating tachycardia: would
   avoid rate control unless persistently above 170.
   - consider lopressor 2.5 mg if HR consistently > 180s
   - monitor on tele
   - Daily ECGs
   .
   # Liver failure [**1-4**] alcholic cirrohsis - s/p liver transplant on
   [**11-15**].  LFTs drifting upwards in the setting of high pressor
   requirements. Hepatic vasculature patent per U/S.
   - consider weaning phenylephrine slowly to improve transplant perfusion
   - transplant surgery & hepatology recs appreciated
   - continue prednisone 20mg PO daily, cellcept 1000mg PO BID
   - continue tacrolimus, redose daily based on level.  check tacrolimus
   level daily at 6 am per Tx team.
   - monitor LFTs Q12 hours.
   - cont prophylaxis with fluconazole, valganclovir (dose confirmed with
   pharmacy) and bactrim
   .
   # Anuric renal failure - most likely secondary to hepatorenal syndrome.
   CVVH stopped yesterday when line clotted off. Mildly more acedemic
   today. +3 liters yesterday. Per renal, HD line would ideally be changed
   (has been in ~3 weeks) but risks currently outweigh benefits, given
   tenuous cardiovascular status
   - renal recs appreciated.
   - re-start CVVH today, but consider holding and seeing if BP improves
   - lytes repletion per renal scale; per renal aggressively replete phos
   - straight cath every other day.
   .
   # Acute on Chronic Anemia
 bumped appropriately to one unit yesterday,
   today down to 26. [**Month (only) 11**] have shear stress on RBCs [**1-4**] impella.
   - Transfuse to goal Hct >30
   - IV protonix 40mg Q12
   - continue EPO 4000 units
   - monitor Hct daily
   .
   # Fever: Low-grade temp yesterday. No leukocytosis and culture data
   unrevealing to date.
   - F/u cultures
   - low threshold to start ABx if infectious picture emerges
   .
   # Hyperglycemia: patient not known diabetic, but elevated blood sugars
   on steroids.  Pt on NPH 4 units [**Hospital1 **] and sliding scale.
   - continue current regimen.  monitor FS.
   .
   # Hepatic vein thrombosis: s/p thrombectomy prior to surgery.
   - continue heparin gtt with goal PTT 50
   .
   # Thrombocytopenia: platelets dropped to 70s this morning. Last Plt
   transfusion [**11-20**].  HIT ab neg in past.
   - cont to monitor. transfuse to keep plt>50
   .
   # Encephalopathy: per surgical team, patient at baseline mental status.
   intermintently following commands.  Portuguese is 1st language.  Seems
   to be slightly more alert went cardiac index is higher suggesting that
   some componenet of encephalopathy might be hypoperfusion
   - continue to monitor exam.
   .
   FEN: Pt on TF.  TPN not needed, per nutrition. NPO for now, for
   possible tandem heart. If no procedure, will resume tube feeds
   .
   ACCESS: left subclavian temp dialysis
   left cordis IJ - swan in RA.
   right radial A line
   .
   PROPHYLAXIS:
   -ulcer ppx
 IV PPI
   -DVT ppx - heparin gtt
   -Bowel regimen with colace prn
   .
   CODE: DNR/DNI, to be re-addressed with family by transplant surgery
   team
   .
   COMM: with patient and wife.
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-11-14**] 09:00 PM
   PA Catheter - [**2145-11-25**] 06:46 PM
   Arterial Line - [**2145-11-30**] 12:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: DNR / DNI
   Disposition:
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   On this day I saw, examined and was physically present with the
   resident / fellow for the key portions of the services provided. I
   agree with the above note and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 10121**].
   I would add the following remarks:
   History
   Continues very unstable course with borderline cardiac output despite
   Milrinone and Impella assoc with SBP 70 to 80 with SVT 160-180.   Lfts
   slightly better.  Pressors slightly lower.
   Physical Examination
   Encephalopathic.
   diffuse 3+ edema and ascites.
   Medical Decision Making
   Will continue current course with fluids to maintain CVP around 20.
   Transfuse.
   Continue CVVH.
   Will discuss code status again as liver team feels that intubation may
   be reasonable although CPR would most likely be futile.
   Total time spent on patient care: 30 minutes of critical care time.
   ------ Protected Section Addendum Entered By:[**Name (NI) 322**] [**Last Name (NamePattern1) **], MD
   on:[**2145-12-1**] 13:33 ------

2145-12-02 06:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
   - Per transplant surgery's discussion with family, patient is now DNR
   but NOT DNI. CAN be intubated if necessary
   - TTE: LV is high-normal/borderline dilated, severe global LV
   hypokinesis, systolic function slightly depressed compared to prior
   - CVVH restarted
   - Transfused 1 unit pRBC
   - Repeat C. Diff sent: ****
   - CVP 10-17
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2145-12-1**] 08:30 AM
   Infusions:
   Heparin Sodium - 400 units/hour
   Phenylephrine - 2.2 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-12-1**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-2**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100
   Tcurrent: 36.5
C (97.7
   HR: 166 (121 - 173) bpm
   BP: 83/55(66) {64/54(60) - 92/71(242)} mmHg
   RR: 18 (15 - 36) insp/min
   SpO2: 99%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 86.8 kg
   Height: 70 Inch
    CVP: 15 (10 - 21)mmHg
   PAP: (35 mmHg) / (20 mmHg)
   PCWP: 24 (24 - 24) mmHg
   CO/CI (Thermodilution): () / (0.9 L/min/m2)
   CO/CI (Fick): (3 L/min) / (1.5 L/min/m2)
   SVR: 2,513 dynes*sec/cm5
   Mixed Venous O2% Sat: 33 - 55
   SV: 13 mL
   SVI: 6 mL/m2
   Total In:
                                                                  4,212 mL
                                                                  1,554 mL
   PO:
   TF:
                                                                    596 mL
                                                                    309 mL
   IVF:
                                                                  2,946 mL
                                                                  1,245 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                    346 mL
                                                                    366 mL
   Urine:
   NG:
   Stool:
                                                                    300 mL
   Drains:
   Balance:
                                                                  3,866 mL
                                                                  1,190 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 99%
   ABG: 7.39/33/73.[**Numeric Identifier **]/21/-3
   Physical Examination
   GEN: Not responding to verbal stimuli. Minimal grimace to sternal rub.
   HEENT: Anicteric sclerae. MM moist.
   NECK: No appreciable JVD. Supple.
   CV: Tachycardic, regular, no murmurs or rubs appreciated
   LUNG: Bibasilar wet crackles. No increased work of breathing
   ABDOMEN: Soft, Unable to appreciate tenderness given mental status. No
   rebound tenderness or guarding. No pulsatile masses
   Peripheral Vascular: (Right radial pulse: diminished), (Left radial
   pulse: diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed). Feet cool.
   Skin:  Not assessed
   Neurologic: Responds to noxious stimuli
   Labs / Radiology
   57 K/uL
   9.1 g/dL
   117 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.6 mEq/L
   15 mg/dL
   106 mEq/L
   136 mEq/L
   27.4 %
   8.0 K/uL
        [image002.jpg]
                            [**2145-12-1**]  05:51 AM
                            [**2145-12-1**]  06:11 AM
                            [**2145-12-1**]  08:30 AM
                            [**2145-12-1**]  10:46 AM
                            [**2145-12-1**]  04:43 PM
                            [**2145-12-1**]  04:58 PM
                            [**2145-12-1**]  10:20 PM
                            [**2145-12-1**]  10:41 PM
                            [**2145-12-2**]  06:12 AM
                            [**2145-12-2**]  06:13 AM
   WBC
   7.0
   7.8
   8.5
   7.7
   8.0
   Hct
   26.8
   26.5
   30.2
   30.3
   27.4
   Plt
   79
   74
   73
   59
   57
   Cr
   1.3
   1.3
   1.5
   1.2
   1.0
   TCO2
   17
   19
   19
   16
   21
   Glucose
   137
   103
   154
   197
   173
   117
   Other labs: PT / PTT / INR:15.3/45.3/1.3, CK / CKMB /
   Troponin-T:82/28/10.45, ALT / AST:236/169, Alk Phos / T Bili:86/2.0,
   Amylase / Lipase:17/, Differential-Neuts:72.7 %, Lymph:20.8 %, Mono:3.4
   %, Eos:2.6 %, Fibrinogen:311 mg/dL, Lactic Acid:1.2 mmol/L, Albumin:2.8
   g/dL, LDH:849 IU/L, Ca++:7.7 mg/dL, Mg++:1.8 mg/dL, PO4:1.4 mg/dL
   Echo: [**2145-12-1**]
   The left ventricular cavity size is top normal/borderline dilated.
   There is severe global left ventricular hypokinesis (LVEF < 15%).  The
   impella device tip appears to be inferior to the mitral valve in the
   region of the chordae (similar to the ending position in yesterday's
   study).
   Assessment and Plan
   ASSESSMENT AND PLAN: Mr. [**Known lastname 8206**] is a 57 yo man with alcoholic
   cirrhosis c/b hepatorenal syndrome requiring HD and hepatopulmonary
   syndrome and HTN s/p liver transplant on [**2145-11-15**], with anuric renal
   failure post-op on CVVH who has had a very prolonged hospital course.
   He is transferred to the CCU for management of new cardiomyopathy with
   EF of 10%
   .
   # Shock
 Likely cardiogenic, given LV and RV dilation/hypokinesis.
   LVEF consistently measured at <15%.  Potential septic component given
   low grade fever, but WBC normal and cultures unrevealing. Pressor
   requirement decreased minimally yesterday. Believed to be secondary to
   post-transplant cardiomyopathy. Unlikely pt had an ischemic event .
   Other possibilities include a tachy-cardiomyopathy or nutritional def.
   If related to transplant, would expect spontaneous recovery if
   supportive measures sufficient (time line unclear).  S/p LVAD
   placement. Case discussed with cardiac transplant at [**Hospital **] Med Ctr, who
   feels patient not a candidate. Considering tandem heart assist.
   - monitor hemodynamic: goal CI> 1.8, attempt to maintain CVP in low
   20s, MAP > 60
   - cont milirinone gtt with phenylephrine, vasopressin as needed. If
   hemodynamics acceptable, can consider weaning phenylephrine further to
   minimize liver injury
   - consider placement of tandem heart, for additional right-sided
   support
   - f/u cultures, low threshold to start antibiotics
   - c/w thiamine replacement
   - c/w digoxin at 0.125 mg QOD
   - refer EKG
s to EP, ?consider tachycardia exacerbating factor to
   cardiomyopathy.
   .
   # Atrial tachycardia
 Exact etiology unclear. [**Name2 (NI) **] was in sinus
   tach earlier and abrupt entry into most likely in an atrial tach with
   1:1 conduction currently. Seems to be tolerating tachycardia: would
   avoid rate control unless persistently above 170. Cardioversion is not
   an option with multiple pressors and LVAD in place
   - consider lopressor 2.5 mg if HR consistently > 180s
   - monitor on tele
   - Daily ECGs
   .
   # Liver failure [**1-4**] alcholic cirrohsis - s/p liver transplant on
   [**11-15**].  LFTs abnormalities developed in the setting of high pressor
   requirements, but now normalizing. Hepatic vasculature patent per U/S.
   - consider weaning phenylephrine slowly to improve transplant perfusion
   - transplant surgery & hepatology recs appreciated
   - continue prednisone 20mg PO daily, cellcept 1000mg PO BID
   - continue tacrolimus, redose daily based on level.  check tacrolimus
   level daily at 6 am per Tx team.
   - monitor LFTs Q12 hours.
   - cont prophylaxis with fluconazole, valganclovir (dose confirmed with
   pharmacy) and bactrim
   .
   # Anuric renal failure - most likely secondary to hepatorenal syndrome.
   CVVH stopped yesterday when line clotted off. Mildly more acedemic
   today. +3 liters yesterday.  s/p replacement of HD line yesterday
   - renal recs appreciated.
   - cont CVVH today, but consider holding and seeing if BP improves
   - lytes repletion per renal scale; per renal aggressively replete phos
   - straight cath every other day.
   .
   # Acute on Chronic Anemia
 bumped appropriately to one unit yesterday,
   today down to 26. [**Month (only) 11**] have shear stress on RBCs [**1-4**] impella.
   - Transfuse to goal Hct >30
   - IV protonix 40mg Q12
   - continue EPO 4000 units
   - monitor Hct daily
   .
   # Fever: Low-grade temp yesterday. No leukocytosis and culture data
   unrevealing to date.
   - F/u cultures
   - f/u c.diff
   - low threshold to start ABx if infectious picture emerges
   .
   # Hyperglycemia: patient not known diabetic, but elevated blood sugars
   on steroids.  Pt on NPH 4 units [**Hospital1 **] and sliding scale.
   - continue current regimen.  monitor FS.
   .
   # Hepatic vein thrombosis: s/p thrombectomy prior to surgery.
   - continue heparin gtt with goal PTT 50
   .
   # Thrombocytopenia: platelets dropped to 70s this morning. Last Plt
   transfusion [**11-20**].  HIT ab neg in past.
   - cont to monitor. transfuse to keep plt>50
   .
   # Encephalopathy: per surgical team, patient at baseline mental status.
   intermintently following commands.  Portuguese is 1st language.  Seems
   to be slightly more alert went cardiac index is higher suggesting that
   some componenet of encephalopathy might be hypoperfusion
   - continue to monitor exam.
   .
   FEN: Pt on TF.  TPN not needed, per nutrition. NPO for now, for
   possible tandem heart. If no procedure, will resume tube feeds
   .
   ACCESS: left subclavian temp dialysis
   left cordis IJ - swan in RA.
   right radial A line
   .
   PROPHYLAXIS:
   -ulcer ppx
 IV PPI
   -DVT ppx - heparin gtt
   -Bowel regimen with colace prn
   .
   CODE: DNR but ok to intubate
   .
   COMM: with patient and wife.
   DISPO: CCU for now
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2145-12-1**] 10:45 AM 45 mL/hour
   Glycemic Control:
   Lines:
   Dialysis Catheter - [**2145-11-14**] 09:00 PM
   PA Catheter - [**2145-11-25**] 06:46 PM
   Arterial Line - [**2145-11-30**] 12:45 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   Agree with plan above.
   [**Initials (NamePattern4) **] [**Last Name (NamePattern4) 3287**]

2145-12-03 07:12:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2145-12-3**] 06:28 AM
   - transplant recs: decrease prednisone to 15gm daily; decrease tacro to
   0.5 mg [**Hospital1 **] and redose tomorrow
   - transfused 1 UpRBC
   - repositioned impella and was able to achieve better flow rates:P2->
   P6; in pm impella device drifted into "unknown area" so that had to be
   turned down to P2; required uptitration of phenylephrine to 2.8,
   transient fall in CI to 1.3 at midnight
   - started vanc/ zosyn/ micafungin as per transplant recs
   - CVVHD filter repeatedly "clogging" [**1-4**] problem with temp HD line ->
   internally kinked or obstructed with clot?
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2145-12-1**] 08:30 AM
   Piperacillin - [**2145-12-2**] 06:59 PM
   Vancomycin - [**2145-12-2**] 07:00 PM
   Micafungin - [**2145-12-3**] 12:55 AM
   Piperacillin/Tazobactam (Zosyn) - [**2145-12-3**] 01:38 AM
   Infusions:
   Vasopressin - 2.4 units/hour
   Heparin Sodium - 100 units/hour
   Phenylephrine - 3 mcg/Kg/min
   Milrinone - 0.5 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-3**] 06:49 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 37.3
C (99.1
   Tcurrent: 36.4
C (97.5
   HR: 169 (143 - 170) bpm
   BP: 77/48(60) {55/39(45) - 88/62(70)} mmHg
   RR: 22 (11 - 35) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 87.3 kg (admission): 86.8 kg
   Height: 70 Inch
    CVP: 20 (12 - 25)mmHg
   PAP: (37 mmHg) / (25 mmHg)
   PCWP: 24 (24 - 24) mmHg
   CO/CI (Fick): (3.4 L/min) / (1.7 L/min/m2)
   Mixed Venous O2% Sat: 30 - 56
   Total In:
                                                                  5,530 mL
                                                                  1,559 mL
   PO:
   TF:
                                                                  1,080 mL
                                                                    306 mL
   IVF:
                                                                  3,920 mL
                                                                  1,253 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  2,779 mL
                                                                  1,142 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,751 mL
                                                                    417 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.34/42/66/21/-2
   Physical Examination
   GEN: Not responding to verbal stimuli. Minimal grimace to sternal rub.
   HEENT: Anicteric sclerae. MM moist.
   NECK: No appreciable JVD. Supple.
   CV: Tachycardic, regular, no murmurs or rubs appreciated
   LUNG: Bibasilar wet crackles. No increased work of breathing
   ABDOMEN: Soft, Unable to appreciate tenderness given mental status. No
   rebound tenderness or guarding. No pulsatile masses
   Peripheral Vascular: Feet cool.
   Neurologic: Responds to noxious stimuli
   Labs / Radiology
   36 K/uL
   10.0
   91 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.6 mEq/L
   12 mg/dL
   106 mEq/L
   136 mEq/L
   28.7 %
   9.3 K/uL
        [image002.jpg]
                            [**2145-12-2**]  10:32 AM
                            [**2145-12-2**]  11:49 AM
                            [**2145-12-2**]  01:44 PM
                            [**2145-12-2**]  05:29 PM
                            [**2145-12-2**]  06:05 PM
                             [**2145-12-3**]  12:03 AM
                             [**2145-12-3**]  12:38 AM
                             [**2145-12-3**]  05:39 AM
                             [**2145-12-3**]  05:54 AM
                             [**2145-12-3**]  05:57 AM
   WBC
   8.5
   9.5
   9.3
   Hct
   30.8
   31.1
   28.7
   Plt
   40
   43
   36
   Cr
   0.9
   1.1
   1.1
   1.0
   TCO2
   21
   21
   18
   18
   24
   Glucose
   98
   164
   222
   103
   91
   Other labs:
   PT / PTT / INR:17.1/45.8/1.5,
   ALT / AST:179/87, Alk Phos / T Bili:85/2.0, LDH:1431 IU/L, Albumin:2.6
   g/dL,
   Ca++:8.0 mg/dL, Mg++:1.9 mg/dL, PO4:1.5 mg/dL
   Tacro level: pending
   Micro: blood cx from [**11-29**]
[**2145-12-3**]: NGTD
   TTE ([**2145-12-2**]): There is severe global left ventricular hypokinesis
   (LVEF = 10 %). RV with depressed free wall contractility. Moderate to
   severe (3+) mitral regurgitation is seen. Tricuspid regurgitation is
   present but cannot be quantified. An Impella device is seen within the
   left ventricular cavity.
   Compared with the prior study (images reviewed) of [**2145-12-1**], the
   Impella device has been adjusted off the postero-medial papillary
   muscle by approx 0.5 cm. The Impella tip now lies just below the
   coaptation point of the mitral leaflets in partial contact with mitral
   chordae tendinae.
   Assessment and Plan
   Mr. [**Known lastname 8206**] is a 57 yo man with alcoholic cirrhosis c/b hepatorenal
   syndrome requiring HD and hepatopulmonary syndrome and HTN s/p liver
   transplant on [**2145-11-15**], with anuric renal failure post-op on CVVH who
   has had a very prolonged hospital course.  He is in CCU for management
   of post-transplant cardiomyopathy with EF of 10%
   .
   # Shock
 Likely cardiogenic, given LV and RV dilation/hypokinesis.
   LVEF consistently measured at <15%.  Potential septic component given
   low grade fever, but WBC normal and cultures unrevealing. Pressor
   requirement decreased minimally yesterday. Believed to be secondary to
   post-transplant cardiomyopathy. Unlikely pt had an ischemic event .
   Other possibilities include a tachy-cardiomyopathy or nutritional def.
   If related to transplant, would expect spontaneous recovery if
   supportive measures sufficient (time line unclear).  S/p impella
   placement. Case discussed with cardiac transplant at [**Hospital **] Med Ctr, who
   feels patient not a candidate. Tandem heart assist was considered but
   held off given that it might not change course.
   - need to remove/possibly replace impella today as the current one has
   been there for 5 days
   - monitor hemodynamic: goal CI> 1.8, attempt to maintain CVP in low
   20s, MAP > 60
   - cont milirinone gtt with phenylephrine, vasopressin as needed. If
   hemodynamics acceptable, can consider weaning phenylephrine further to
   minimize liver injury
   - f/u cultures, low threshold to start antibiotics
   - c/w digoxin at 0.125 mg QOD
   - c/w thiamine replacement
   - aggressively replete phos
   .
   # Atrial tachycardia
 Exact etiology unclear. Seems to be tolerating
   tachycardia: would avoid rate control unless persistently above 180.
   Cardioversion is not an option with multiple pressors and impella  in
   place
   - consider lopressor 2.5 mg if HR consistently > 180s
   - monitor on tele
   - Daily ECGs
   .
   # Liver failure [**1-4**] alcholic cirrohsis - s/p liver transplant on
   [**11-15**].  LFTs abnormalities developed in the setting of high pressor
   requirements, but now improving. Hepatic vasculature patent per U/S.
   - consider weaning phenylephrine slowly to improve transplant perfusion
   - transplant surgery & hepatology recs appreciated
   - continue prednisone 15mg PO daily, cellcept 1000mg PO BID
   - continue tacrolimus, redose daily based on level.  check tacrolimus
   level daily at 6 am per Tx team.
   - monitor LFTs Q12 hours.
   - cont prophylaxis with valganclovir (dose confirmed with pharmacy) and
   bactrim
   .
   # Anuric renal failure - most likely secondary to hepatorenal syndrome.
   CVVH stopped yesterday when line clogged off.
   - may need to replace HD line if the line continues to be clogged today
   - renal recs appreciated.
   - cont CVVH today pending CVVH line status, but consider holding and
   seeing if BP improves
   - lytes repletion per renal scale; per renal aggressively replete phos
   - straight cath every other day.
   .
   # Acute on Chronic Anemia
s/p transfusion of 1upRBC yesterday.  [**Month (only) 11**]
   have shear stress on RBCs [**1-4**] impella.
   - no transfusion today
   - IV protonix 40mg Q12
   - continue EPO 4000 units
   - monitor Hct daily
   .
   # Fever: Low-grade temp yesterday. No leukocytosis and culture data
   unrevealing to date.  However, given ascites and concern for SBP, abx
   started on [**2145-12-2**]
   - continue vanc/ zosyn/ micafungin for now
   - F/u cultures
   - f/u c.diff
   .
   # Hyperglycemia: patient not known diabetic, but elevated blood sugars
   on steroids.  Pt on NPH 4 units [**Hospital1 **] and sliding scale.
   - continue current regimen.  monitor FS.
   .
   # Hepatic vein thrombosis: s/p thrombectomy prior to surgery.
   - continue heparin gtt with goal PTT 50
   .
   # Thrombocytopenia: platelets dropped to 30s this morning. Last Plt
   transfusion [**11-20**].  HIT ab neg in past.
   - cont to monitor. No transfusion for now
   - consider switch heparin to argatroban or bival
   .
   # Encephalopathy: worsening, not following commands.  Portuguese is 1st
   language.  Seems to be slightly more alert went cardiac index is higher
   suggesting that some componenet of encephalopathy might be
   hypoperfusion
   - continue to monitor exam.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2145-12-2**] 10:36 AM 45 mL/hour
   Glycemic Control:  insulin fixed and sliding scale
   Lines:
   Dialysis Catheter - [**2145-11-14**] 09:00 PM
   PA Catheter - [**2145-11-25**] 06:46 PM
   Arterial Line - [**2145-11-30**] 12:45 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: Pantoprazole 40 mg IV Q12H
   VAP:  n/a
   Comments: bowel regimen
   Communication:  Comments:  wife
   [**Name (NI) 129**] status: DNR (do not resuscitate)
   Disposition: CCU
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 6972**].
   I would add the following remarks:
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2145-12-3**] 10:08 ------

2145-12-04 07:54:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2145-12-3**] 11:15 AM
   r radial aline
 DIALYSIS CATHETER - STOP [**2145-12-3**] 02:26 PM
 ULTRASOUND - At [**2145-12-3**] 10:52 PM
   ultrasound from interventional fellow, US tech to r/o clot left leg
 FEVER - 101.1
C - [**2145-12-3**] 09:00 AM
   - impella repositioned again. BP better afterwards. level P4, flow
   1.7-1.8
   - HD line was pulled by renal.  Because of prolonged oozing after line
   was pulled, renal decided not to put in a new line until tomorrow.  Pt
   will get FFP and platelets prior to new line placement.
   - pleural effusion:  too difficult to position pt to tap the pleural
   effusion, with the impella being as mobile as it has been
   - pt DP pulse not dop'able in the afternoon.  heparin was switched to
   bival. HIT ab sent.  bear hugger applied to reduce peripheral
   vasoconstriction.
   - DP pulse returned after the intervention
   - arterial US showed no significant thrombus near impella
   - Labs overnight showed likely DIC, INR 3.9, fibrinogen 107
   - vascular saw pt, no intervention
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2145-12-1**] 08:30 AM
   Piperacillin - [**2145-12-2**] 06:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-12-3**] 04:00 PM
   Vancomycin - [**2145-12-4**] 12:00 AM
   Micafungin - [**2145-12-4**] 12:00 AM
   Meropenem - [**2145-12-4**] 04:00 AM
   Infusions:
   Bivalirudin (Angiomax) - 0.05 mg/Kg/hour
   Phenylephrine - 5 mcg/Kg/min
   Milrinone - 0.5 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-12-3**] 08:00 AM
   Heparin Sodium - [**2145-12-3**] 05:45 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-4**] 07:51 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 38.4
C (101.1
   Tcurrent: 38
C (100.4
   HR: 160 (141 - 172) bpm
   BP: 67/53(57) {67/43(54) - 89/67(74)} mmHg
   RR: 23 (16 - 36) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 89.6 kg (admission): 86.8 kg
   Height: 70 Inch
    CVP: 21 (16 - 21)mmHg
   PAP: (41 mmHg) / (21 mmHg)
   PCWP: 22 (22 - 22) mmHg
   CO/CI (Fick): (3.7 L/min) / (1.8 L/min/m2)
   Mixed Venous O2% Sat: 40 - 40
   Total In:
                                                                  5,244 mL
                                                                  1,357 mL
   PO:
   TF:
                                                                  1,015 mL
                                                                    196 mL
   IVF:
                                                                  3,759 mL
                                                                  1,100 mL
   Blood products:
                                                                    260 mL
   Total out:
                                                                  2,342 mL
                                                                    100 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,902 mL
                                                                  1,257 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.44/29/67/18/-2
   Physical Examination
   GEN: Not responding to verbal stimuli. Minimal grimace to sternal rub.
   HEENT: Anicteric sclerae. MM moist.
   NECK: No appreciable JVD. Supple.
   CV: Tachycardic, regular, no murmurs or rubs appreciated
   LUNG: Bibasilar wet crackles. No increased work of breathing
   ABDOMEN: Soft, Unable to appreciate tenderness given mental status. No
   rebound tenderness or guarding. No pulsatile masses
   Peripheral Vascular: Feet cool.
   Neurologic: Responds to noxious stimuli
   Labs / Radiology
   82 K/uL
   9.7 g/dL
   82 mg/dL
   1.7 mg/dL
   18 mEq/L
   4.2 mEq/L
   16 mg/dL
   106 mEq/L
   134 mEq/L
   29.6 %
   8.9 K/uL
        [image002.jpg]
                             [**2145-12-3**]  12:38 AM
                             [**2145-12-3**]  05:39 AM
                             [**2145-12-3**]  05:54 AM
                             [**2145-12-3**]  05:57 AM
                             [**2145-12-3**]  12:46 PM
                             [**2145-12-3**]  12:53 PM
                             [**2145-12-3**]  05:31 PM
                             [**2145-12-4**]  12:40 AM
                             [**2145-12-4**]  04:51 AM
                             [**2145-12-4**]  05:12 AM
   WBC
   9.3
   11.1
   10.8
   8.9
   Hct
   28.7
   31
   29.7
   28.8
   29.6
   Plt
   36
   95
   80
   82
   Cr
   1.0
   1.2
   1.3
   1.7
   TCO2
   18
   24
   21
   20
   Glucose
   103
   91
   156
   130
   82
   Other labs: PT / PTT / INR:31.4/76.8/3.2, CK / CKMB /
   Troponin-T:82/28/10.45, ALT / AST:152/91, Alk Phos / T Bili:85/2.0,
   Amylase / Lipase:17/, Differential-Neuts:67.0 %, Band:0.0 %, Lymph:17.0
   %, Mono:11.0 %, Eos:4.0 %, D-dimer:[**Numeric Identifier 10172**] ng/mL, Fibrinogen:138 mg/dL,
   Lactic Acid:1.4 mmol/L, Albumin:2.7 g/dL, LDH:1414 IU/L, Ca++:8.2
   mg/dL, Mg++:1.9 mg/dL, PO4:2.4 mg/dL
   Micro:
   Blood cx from [**12-2**]: 2/4 bottles of GPC in pairs and chains
   Studies:
   Art Ext [**2145-12-3**]:
   Grossly patent right common femoral artery containing catheter, with
   wall-to-wall color flow around the catheter. Distally, patent branch
   vessel
   with normal waveform.
   Assessment and Plan
   Mr. [**Known lastname 8206**] is a 57 yo man with alcoholic cirrhosis c/b hepatorenal
   syndrome requiring HD and hepatopulmonary syndrome and HTN s/p liver
   transplant on [**2145-11-15**], with anuric renal failure post-op on CVVH who
   has had a very prolonged hospital course.  He is in CCU for management
   of post-transplant cardiomyopathy with EF of 10%
   .
   # Shock
 Likely cardiogenic, given LV and RV dilation/hypokinesis.
   LVEF consistently measured at <15%.  Potential septic component given
   low grade fever, but WBC normal and cultures unrevealing. Pressor
   requirement decreased minimally yesterday. Believed to be secondary to
   post-transplant cardiomyopathy. Unlikely pt had an ischemic event .
   Other possibilities include a tachy-cardiomyopathy or nutritional def.
   If related to transplant, would expect spontaneous recovery if
   supportive measures sufficient (time line unclear).  S/p impella
   placement. Case discussed with cardiac transplant at [**Hospital **] Med Ctr, who
   feels patient not a candidate. Tandem heart assist was considered but
   held off given that it might not change course.
   - need to remove/possibly replace impella today as the current one has
   been there for 5 days
   - monitor hemodynamic: goal CI> 1.8, attempt to maintain CVP in low
   20s, MAP > 60
   - cont milirinone gtt with phenylephrine, vasopressin as needed. If
   hemodynamics acceptable, can consider weaning phenylephrine further to
   minimize liver injury
   - f/u cultures, low threshold to start antibiotics
   - c/w digoxin at 0.125 mg QOD
   - c/w thiamine replacement
   - aggressively replete phos
   .
   # Atrial tachycardia
 Exact etiology unclear. Seems to be tolerating
   tachycardia: would avoid rate control unless persistently above 180.
   Cardioversion is not an option with multiple pressors and impella  in
   place
   - consider lopressor 2.5 mg if HR consistently > 180s
   - monitor on tele
   - Daily ECGs
   .
   # Liver failure [**1-4**] alcholic cirrohsis - s/p liver transplant on
   [**11-15**].  LFTs abnormalities developed in the setting of high pressor
   requirements, but now improving. Hepatic vasculature patent per U/S.
   - consider weaning phenylephrine slowly to improve transplant perfusion
   - transplant surgery & hepatology recs appreciated
   - continue prednisone 15mg PO daily, cellcept 1000mg PO BID
   - continue tacrolimus, redose daily based on level.  check tacrolimus
   level daily at 6 am per Tx team.
   - monitor LFTs Q12 hours.
   - cont prophylaxis with valganclovir (dose confirmed with pharmacy) and
   bactrim
   .
   # Anuric renal failure - most likely secondary to hepatorenal syndrome.
   CVVH stopped yesterday when line clogged off.
   - may need to replace HD line if the line continues to be clogged today
   - renal recs appreciated.
   - cont CVVH today pending CVVH line status, but consider holding and
   seeing if BP improves
   - lytes repletion per renal scale; per renal aggressively replete phos
   - straight cath every other day.
   .
   # Acute on Chronic Anemia
s/p transfusion of 1upRBC yesterday.  [**Month (only) 11**]
   have shear stress on RBCs [**1-4**] impella.
   - no transfusion today
   - IV protonix 40mg Q12
   - continue EPO 4000 units
   - monitor Hct daily
   .
   # Fever: Low-grade temp yesterday. No leukocytosis and culture data
   unrevealing to date.  However, given ascites and concern for SBP, abx
   started on [**2145-12-2**]
   - continue vanc/ zosyn/ micafungin for now
   - F/u cultures
   - f/u c.diff
   .
   # Hyperglycemia: patient not known diabetic, but elevated blood sugars
   on steroids.  Pt on NPH 4 units [**Hospital1 **] and sliding scale.
   - continue current regimen.  monitor FS.
   .
   # Hepatic vein thrombosis: s/p thrombectomy prior to surgery.
   - continue heparin gtt with goal PTT 50
   .
   # Thrombocytopenia: platelets dropped to 30s this morning. Last Plt
   transfusion [**11-20**].  HIT ab neg in past.
   - cont to monitor. No transfusion for now
   - consider switch heparin to argatroban or bival
   .
   # Encephalopathy: worsening, not following commands.  Portuguese is 1st
   language.  Seems to be slightly more alert went cardiac index is higher
   suggesting that some componenet of encephalopathy might be
   hypoperfusion
   - continue to monitor exam.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2145-12-3**] 10:34 AM 25 mL/hour
   Glycemic Control:  insulin
   Lines:
   PA Catheter - [**2145-11-25**] 06:46 PM
   Arterial Line - [**2145-11-30**] 12:45 PM
   Prophylaxis:
   DVT: heparin gtt
   Stress ulcer: Pantoprazole 40 mg IV Q12H
   VAP:  n/a
   Comments: bowel regimen
   Communication:  Comments:  wife
   [**Name (NI) 129**] status: DNR (do not resuscitate)
   Disposition: CCU
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2589**].
   I would add the following remarks:
   History
   His leg is warm today and pulses are dopplerable. Vascular surgery
   following.

2145-12-04 21:11:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2145-12-3**] 11:15 AM
   r radial aline
 DIALYSIS CATHETER - STOP [**2145-12-3**] 02:26 PM
 ULTRASOUND - At [**2145-12-3**] 10:52 PM
   ultrasound from interventional fellow, US tech to r/o clot left leg
 FEVER - 101.1
C - [**2145-12-3**] 09:00 AM
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-12-2**] 06:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-12-3**] 04:00 PM
   Vancomycin - [**2145-12-4**] 12:00 AM
   Micafungin - [**2145-12-4**] 12:00 AM
   Daptomycin - [**2145-12-4**] 03:30 PM
   Meropenem - [**2145-12-4**] 05:00 PM
   Infusions:
   Bivalirudin (Angiomax) - 0.04 mg/Kg/hour
   Milrinone - 0.5 mcg/Kg/min
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-12-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-4**] 09:10 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 38.2
C (100.8
   Tcurrent: 35.1
C (95.2
   HR: 156 (148 - 171) bpm
   BP: 63/51(56) {62/47(54) - 76/58(63)} mmHg
   RR: 24 (18 - 36) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 93.3 kg (admission): 86.8 kg
   Height: 70 Inch
    CVP: 16 (16 - 23)mmHg
   PAP: (32 mmHg) / (17 mmHg)
   CO/CI (Fick): (3.4 L/min) / (1.7 L/min/m2)
   Mixed Venous O2% Sat: 35 - 40
   Total In:
                                                                  5,244 mL
                                                                  3,824 mL
   PO:
   TF:
                                                                  1,015 mL
                                                                    332 mL
   IVF:
                                                                  3,759 mL
                                                                  3,132 mL
   Blood products:
                                                                    260 mL
   Total out:
                                                                  2,342 mL
                                                                  1,691 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,902 mL
                                                                  2,133 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.37/29/69/16/-6
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   78 K/uL
   9.4 g/dL
   162 mg/dL
   1.5 mg/dL
   16 mEq/L
   4.3 mEq/L
   16 mg/dL
   102 mEq/L
   130 mEq/L
   28.7 %
   10.9 K/uL
        [image002.jpg]
                             [**2145-12-3**]  12:53 PM
                             [**2145-12-3**]  05:31 PM
                             [**2145-12-4**]  12:40 AM
                             [**2145-12-4**]  04:51 AM
                             [**2145-12-4**]  05:12 AM
                             [**2145-12-4**]  11:33 AM
                             [**2145-12-4**]  11:35 AM
                             [**2145-12-4**]  11:44 AM
                             [**2145-12-4**]  07:50 PM
                             [**2145-12-4**]  08:16 PM
   WBC
   11.1
   10.8
   8.9
   11.7
   10.9
   Hct
   31
   29.7
   28.8
   29.6
   29.4
   28.7
   Plt
   95
   80
   82
   78
   Cr
   1.3
   1.7
   1.8
   1.5
   TCO2
   21
   20
   18
   17
   Glucose
   130
   82
   134
   162
   Other labs: PT / PTT / INR:28.9/69.2/2.8, CK / CKMB /
   Troponin-T:82/28/10.45, ALT / AST:152/91, Alk Phos / T Bili:85/2.0,
   Amylase / Lipase:17/, Differential-Neuts:67.0 %, Band:0.0 %, Lymph:17.0
   %, Mono:11.0 %, Eos:4.0 %, D-dimer:[**Numeric Identifier 10172**] ng/mL, Fibrinogen:138 mg/dL,
   Lactic Acid:3.5 mmol/L, Albumin:2.7 g/dL, LDH:1444 IU/L, Ca++:8.0
   mg/dL, Mg++:2.2 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2145-12-3**] 10:34 AM 10 mL/hour
   Glycemic Control:
   Lines:
   PA Catheter - [**2145-11-25**] 06:46 PM
   Arterial Line - [**2145-11-30**] 12:45 PM
   Dialysis Catheter - [**2145-12-4**] 10:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:

2145-12-05 06:17:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 DIALYSIS CATHETER - START [**2145-12-4**] 10:38 AM
   - new line placed for [**Name (NI) 3202**]
   - pt received [**Name (NI) 3202**]
   - received 1u pRBC
s for low mixed venous 02
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin - [**2145-12-2**] 06:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2145-12-3**] 04:00 PM
   Vancomycin - [**2145-12-4**] 12:00 AM
   Daptomycin - [**2145-12-4**] 03:30 PM
   Meropenem - [**2145-12-4**] 05:00 PM
   Micafungin - [**2145-12-5**] 01:00 AM
   Infusions:
   Bivalirudin (Angiomax) - 0.03 mg/Kg/hour
   Vasopressin - 2.4 units/hour
   Milrinone - 0.5 mcg/Kg/min
   Phenylephrine - 5 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-12-4**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-5**] 06:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 38
C (100.4
   Tcurrent: 36.1
C (97
   HR: 156 (141 - 171) bpm
   BP: 61/50(54) {61/47(52) - 76/56(62)} mmHg
   RR: 20 (14 - 34) insp/min
   SpO2: 100%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 85.9 kg (admission): 86.8 kg
   Height: 70 Inch
    CVP: 15 (14 - 23)mmHg
   PAP: (30 mmHg) / (20 mmHg)
   CO/CI (Fick): (4 L/min) / (1.9 L/min/m2)
   Mixed Venous O2% Sat: 35 - 51
   Total In:
                                                                  4,557 mL
                                                                  1,279 mL
   PO:
   TF:
                                                                    360 mL
                                                                     13 mL
   IVF:
                                                                  3,737 mL
                                                                  1,016 mL
   Blood products:
                                                                    100 mL
                                                                    250 mL
   Total out:
                                                                  2,048 mL
                                                                  1,102 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  2,509 mL
                                                                    177 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 100%
   ABG: 7.47/27/81.[**Numeric Identifier **]/21/-1
   Physical Examination
   General: nonpurposive eye movements, breathes through pursed lips.
   HEENT: mildly edematous facies
   CV: tachycardic with reg rhytm
   Resp: Coarse breath sounds bilaterally (anteriorly)
   Abd: soft, nd, chevron incision with staples intact with poor healing
   Ext: 4+ pitting edema, [**Name8 (MD) **], crt < or = 2sec.
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  diffuse purpura on chest and neck
   Neurologic: Responds to: opens eyes to voice, Movement: moves eyes and
   adjusts head, Tone: [**4-6**] grip on right, none on left. Full ocular
   movements but does not follow commands. Non purposive
   Labs / Radiology
   55 K/uL
   10.3 g/dL
   58 mg/dL
   1.3 mg/dL
   21 mEq/L
   3.8 mEq/L
   14 mg/dL
   102 mEq/L
   133 mEq/L
   30.8 %
   11.9 K/uL
        [image002.jpg]
                             [**2145-12-4**]  12:40 AM
                             [**2145-12-4**]  04:51 AM
                             [**2145-12-4**]  05:12 AM
                             [**2145-12-4**]  11:33 AM
                             [**2145-12-4**]  11:35 AM
                             [**2145-12-4**]  11:44 AM
                             [**2145-12-4**]  07:50 PM
                             [**2145-12-4**]  08:16 PM
                             [**2145-12-5**]  04:21 AM
                             [**2145-12-5**]  04:46 AM
   WBC
   10.8
   8.9
   11.7
   10.9
   11.9
   Hct
   28.8
   29.6
   29.4
   28.7
   30.8
   Plt
   80
   82
   78
   63
   55
   Cr
   1.7
   1.8
   1.5
   1.3
   TCO2
   20
   18
   17
   20
   Glucose
   82
   134
   162
   58
   Other labs: PT / PTT / INR:25.6/66.9/2.5, CK / CKMB /
   Troponin-T:82/28/10.45, ALT / AST:270/308, Alk Phos / T Bili:90/2.7,
   Amylase / Lipase:17/, Differential-Neuts:67.0 %, Band:0.0 %, Lymph:17.0
   %, Mono:11.0 %, Eos:4.0 %, D-dimer:[**Numeric Identifier 10172**] ng/mL, Fibrinogen:178 mg/dL,
   Lactic Acid:1.9 mmol/L, Albumin:2.7 g/dL, LDH:1547 IU/L, Ca++:8.0
   mg/dL, Mg++:2.0 mg/dL, PO4:2.4 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 8206**] is a 57 yo man with alcoholic cirrhosis c/b hepatorenal
   syndrome requiring HD and hepatopulmonary syndrome and HTN s/p liver
   transplant on [**2145-11-15**], with anuric renal failure post-op on CVVH who
   has had a very prolonged hospital course.  He is in CCU for management
   of post-transplant cardiomyopathy with EF of 10%
   .
   # Shock
 Likely cardiogenic, given LV and RV dilation/hypokinesis.
   LVEF consistently measured at <15%.  Potential septic component given
   low grade fever, but WBC normal and cultures unrevealing. Pressor
   requirement decreased minimally yesterday. Believed to be secondary to
   post-transplant cardiomyopathy. Unlikely pt had an ischemic event .
   Other possibilities include a tachy-cardiomyopathy or nutritional def.
   If related to transplant, would expect spontaneous recovery if
   supportive measures sufficient (time line unclear).  S/p impella
   placement. Case discussed with cardiac transplant at [**Hospital **] Med Ctr, who
   feels patient not a candidate. Tandem heart assist was considered but
   held off given that it might not change course.
   - need to remove/possibly replace impella today as the current one has
   been there for 5 days
   - monitor hemodynamic: goal CI> 1.8, attempt to maintain CVP in low
   20s, MAP > 60
   - cont milirinone gtt with phenylephrine, vasopressin as needed. If
   hemodynamics acceptable, can consider weaning phenylephrine further to
   minimize liver injury
   - f/u cultures, low threshold to start antibiotics
   - c/w digoxin at 0.125 mg QOD
   - c/w thiamine replacement
   - aggressively replete phos
   .
   # Atrial tachycardia
 Exact etiology unclear. Seems to be tolerating
   tachycardia: would avoid rate control unless persistently above 180.
   Cardioversion is not an option with multiple pressors and impella  in
   place
   - consider lopressor 2.5 mg if HR consistently > 180s
   - monitor on tele
   - Daily ECGs
   .
   # Liver failure [**1-4**] alcholic cirrohsis - s/p liver transplant on
   [**11-15**].  LFTs abnormalities developed in the setting of high pressor
   requirements. Worse today compared to [**2144-12-4**], after period of
   improvement. Hepatic vasculature patent per U/S.
   - consider weaning phenylephrine slowly to improve transplant perfusion
   - transplant surgery & hepatology recs appreciated
   - continue prednisone 15mg PO daily, cellcept 1000mg PO BID
   - continue tacrolimus, redose daily based on level.  check tacrolimus
   level daily at 6 am per Tx team.
   - monitor LFTs Q12 hours.
   - cont prophylaxis with valganclovir (dose confirmed with pharmacy) and
   bactrim
   .
   # Anuric renal failure - most likely secondary to hepatorenal syndrome.
   CVVH stopped yesterday when line clogged off.
   - may need to replace HD line if the line continues to be clogged today
   - renal recs appreciated.
   - cont CVVH today pending CVVH line status, but consider holding and
   seeing if BP improves
   - lytes repletion per renal scale; per renal aggressively replete phos
   - straight cath every other day.
   .
   # Acute on Chronic Anemia
s/p transfusion of 1upRBC yesterday.  [**Month (only) 11**]
   have shear stress on RBCs [**1-4**] impella.
   - no transfusion today
   - IV protonix 40mg Q12
   - continue EPO 4000 units
   - monitor Hct daily
   .
   # Fever: Low-grade temp yesterday. No leukocytosis and culture data
   unrevealing to date.  However, given ascites and concern for SBP, abx
   started on [**2145-12-2**]
   - continue vanc/ zosyn/ micafungin for now
   - F/u cultures
   - f/u c.diff
   .
   # Hyperglycemia: patient not known diabetic, but elevated blood sugars
   on steroids.  Pt on NPH 4 units [**Hospital1 **] and sliding scale.
   - continue current regimen.  monitor FS.
   .
   # Hepatic vein thrombosis: s/p thrombectomy prior to surgery.
   - continue heparin gtt with goal PTT 50
   .
   # Thrombocytopenia: platelets dropped to 30s this morning. Last Plt
   transfusion [**11-20**].  HIT ab neg in past.
   - cont to monitor. No transfusion for now
   - consider switch heparin to argatroban or bival
   .
   # Encephalopathy: worsening, not following commands.  Portuguese is 1st
   language.  Seems to be slightly more alert went cardiac index is higher
   suggesting that some componenet of encephalopathy might be
   hypoperfusion
   - continue to monitor exam.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PA Catheter - [**2145-11-25**] 06:46 PM
   Arterial Line - [**2145-11-30**] 12:45 PM
   Dialysis Catheter - [**2145-12-4**] 10:38 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) **].
   I would add the following remarks:

2145-12-06 06:22:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - received 1 u PRBC for low mixed venous o2 and tachycardia
   - cvvhd filter clotted, ordered replacement, CVVH restarted
   - pt hypoglycemic, insulin ss more spaced out
   - lots of worry about the placement of Swan - odd waveform and CXR that
   was actually read as being in RA.  repeat CXR obtained; swan in right
   main PA
   Patient unable to provide history: Encephalopathy
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2145-12-3**] 04:00 PM
   Vancomycin - [**2145-12-4**] 12:00 AM
   Daptomycin - [**2145-12-4**] 03:30 PM
   Meropenem - [**2145-12-5**] 04:00 PM
   Micafungin - [**2145-12-5**] 11:58 PM
   Infusions:
   Bivalirudin (Angiomax) - 0.03 mg/Kg/hour
   Phenylephrine - 5 mcg/Kg/min
   Milrinone - 0.5 mcg/Kg/min
   Vasopressin - 2.4 units/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2145-12-5**] 09:00 AM
   Dextrose 50% - [**2145-12-5**] 12:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-6**] 06:20 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 35.6
C (96.1
   HR: 149 (140 - 159) bpm
   BP: 71/55(60) {60/48(52) - 72/59(64)} mmHg
   RR: 23 (15 - 32) insp/min
   SpO2: 98%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 86.8 kg
   Height: 70 Inch
    CVP: 13 (12 - 19)mmHg
   PAP: (27 mmHg) / (10 mmHg)
   CO/CI (Fick): (4.4 L/min) / (2.2 L/min/m2)
   Mixed Venous O2% Sat: 40 - 58
   Total In:
                                                                  5,212 mL
                                                                  1,459 mL
   PO:
   TF:
                                                                    153 mL
                                                                     63 mL
   IVF:
                                                                  4,265 mL
                                                                  1,276 mL
   Blood products:
                                                                    610 mL
   Total out:
                                                                  4,764 mL
                                                                    734 mL
   Urine:
   NG:
                                                                      5 mL
                                                                      5 mL
   Stool:
   Drains:
   Balance:
                                                                    448 mL
                                                                    725 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 98%
   ABG: 7.44/31/86/21/-1
   Physical Examination
   GENERAL: eyes open, breathing heavily, not following commands
   HEENT: NCAT. Sclera anicteric.
   NECK: unable to assess JVP 2/2 lines.   Ecchymosis at neck from
   multiple line attempts.
   CARDIAC: distant heart sounds. fast, regular rate. normal S1, S2. No no
   r/g.
   LUNGS:  crackles at bases bilat. no wheezes or rhonchi.
   ABDOMEN: +chevron scar, healing well. Soft, Distended.  No obvious
   tenderness.
   EXTREMITIES: cool extremeties. 3+ pitting edema in LE bilaterally.
   Peripheral Vascular: (Right radial pulse: palpable), (Left radial
   pulse: palpable), (Right DP pulse: doppler), (Left DP pulse: doppler)
   Skin:  no skin lesions
   Neurologic:  not following commands, Movement: moves all 4 extremities
   spontaneously, Tone: Not assessed
   Labs / Radiology
   45 K/uL
   11.4 g/dL
   83 mg/dL
   1.0 mg/dL
   21 mEq/L
   3.4 mEq/L
   12 mg/dL
   101 mEq/L
   133 mEq/L
   32.8 %
   10.6 K/uL
        [image002.jpg]
                             [**2145-12-5**]  04:21 AM
                             [**2145-12-5**]  04:46 AM
                             [**2145-12-5**]  09:50 AM
                             [**2145-12-5**]  10:03 AM
                             [**2145-12-5**]  03:10 PM
                             [**2145-12-5**]  03:15 PM
                             [**2145-12-5**]  08:19 PM
                             [**2145-12-5**]  08:36 PM
                             [**2145-12-6**]  03:57 AM
                             [**2145-12-6**]  04:22 AM
   WBC
   11.9
   9.6
   9.4
   10.6
   Hct
   30.8
   34.7
   32.2
   32.8
   Plt
   55
   56
   52
   45
   Cr
   1.3
   1.1
   1.2
   1.0
   TCO2
   20
   22
   20
   21
   22
   Glucose
   58
   28
   93
   143
   83
   Other labs:
   PT / PTT / INR:23.7/67.0/2.3,
   ALT / AST:232/157, Alk Phos / T Bili:91/2.3, LDH:1415 IU/L,
   Differential-Neuts:83.0 %, Band:2.0 %, Lymph:9.0 %, Mono:3.0 %, Eos:0.0
   %,
   Lactic Acid:1.9 mmol/L,
   Ca++:7.8 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   Micro:
   Blood cx after positive VRE on [**12-2**]: NGTD
   Imaging:
   CXR from [**12-5**]:  swan in right PA.  stable loculated right pleural
   effusion, bibasilar and left apical opacities.
   Assessment and Plan
   Mr. [**Known lastname 8206**] is a 57 yo man with alcoholic cirrhosis c/b hepatorenal
   syndrome requiring HD and hepatopulmonary syndrome and HTN s/p liver
   transplant on [**2146-11-15**], with anuric renal failure post-op on CVVH who
   has had a very prolonged hospital course.  He is in CCU for management
   of post-transplant cardiomyopathy with EF of 10%
   .
   # Shock
 Likely cardiogenic, given LV and RV dilation/hypokinesis.
   LVEF consistently measured at <15%. Here, the etiology could be
   'post-transplant cmp,' tachycardiomyopathy or hypophosphatemic
   cardiomyopathy. Potential septic component given low grade fever and
   VRE in Bcx, but WBC normal. Pressor requirement in flux but on
   milrinone, phenylephrine and vasopressin as of [**2144-12-6**]. If related to
   transplant, would expect spontaneous recovery if supportive measures
   sufficient (time line unclear).
   -  S/p impella placement (Day 7 = [**2145-12-6**]). Case discussed with cardiac
   transplant at [**Hospital **] Med Ctr, who feels patient not a candidate. Tandem
   heart assist was considered but held off given that it might not change
   course.
   - have inter-team meeting today (transplant, liver, Dr. [**First Name (STitle) **] to
   discuss further management
   -patient on dapto (VRE), micafungin ([**Female First Name (un) 444**]) and [**Last Name (un) 1540**] (broad gram neg
   coverage)
   - need to remove/possibly replace impella today as the current one has
   been there for 7 days.
   - monitor hemodynamic: goal CI> 1.8, attempt to maintain CVP in low
   20s, MAP > 60
   - cont milirinone gtt with phenylephrine, vasopressin as needed. If
   hemodynamics acceptable, can consider weaning phenylephrine further to
   minimize liver injury
   - aggressively replete phos while minimizing sodium load (giving IV
   repletion today to augment PO repletion). Can give 15-30 meq q8.
   - f/u cultures
   - c/w thiamine replacement
   .
   # Hypophosphatemia: clinically important (as above). Related to
   refeeding syndrome and liver injury with regeneration. Need to replete
   aggressively to minimize hypophosphatemia-associated cardiomyopathy.
   - Replete (as above)
   .
   # Atrial tachycardia
 Exact etiology unclear. Seems to be tolerating
   tachycardia: would avoid rate control unless persistently above 180.
   Cardioversion is not an option with multiple pressors and impella in
   place. His best responses have been to blood transfusion.
   - monitor on tele
   - Daily ECGs
   .
   # Liver failure [**1-4**] alcholic cirrohsis - s/p liver transplant on
   [**11-15**].  LFTs abnormalities developed in the setting of high pressor
   requirements. Worse yesterday ([**12-5**]) compared to [**2145-12-4**], after period of
   improvement.  Improving again today.  Overall stable. Hepatic
   vasculature patent per U/S. Cellcept d/c'd on [**2144-12-5**].
   - consider weaning phenylephrine slowly to improve transplant perfusion
   - transplant surgery recs appreciated
   - continue prednisone 15mg PO daily, continue tacrolimus, redose daily
   based on level.  check tacrolimus level daily at 6 am per Tx team, goal
   tacro level [**5-10**].
   - monitor LFTs daily
   - cont prophylaxis with valganclovir (dose confirmed with pharmacy) and
   bactrim
   .
   # Anuric renal failure - most likely secondary to hepatorenal syndrome.
   CVVH filter clotted and replaced on [**2145-12-5**]
   - renal recs appreciated.
   - cont CVVH
   - lytes repletion per renal scale; per renal aggressively replete phos
   - straight cath every other day.
   .
   # Acute on Chronic Anemia: hct 32.8. hemolysis labs positive. [**Month (only) 11**] have
   shear stress on RBCs [**1-4**] impella. Had 1 unit yesterday [**12-5**]
   - IV protonix 40mg Q12
   - continue EPO 4000 units
   - monitor Hct daily
   .
   # Hyperglycemia: patient not known diabetic, but had elevated blood
   sugars on steroids.  Pt on NPH 4 units [**Hospital1 **] and sliding scale. Was
   hypoglycemic to 25 on [**2144-12-5**]; resuscitated with D50 amps; likely
   related to stopped tubefeeds but could also reflect liver failure.
   Sliding scale more spaced out.
   - continue current regimen.  monitor FS.
   .
   # Thrombocytopenia: Dropped from 52 to 45 from [**12-5**] to [**12-6**]. platelets as
   low as 16 in past, Last Plt transfusion [**12-4**].  HIT ab neg in past.
   - cont to monitor. No transfusion for now
   - treating as HIT, continue bival
   - f/u HIT level
   .
   # Hepatic vein thrombosis: s/p thrombectomy prior to surgery. Was on
   heparin but then may have had clot on left femoral while therapeutic on
   heparin, related to possible HIT or impella.
   - continue bivalrudin. No dosing changes while on CVVH (assume CrCl of
   30), also thrombin is responsible for 80% of metabolism
   - monitor PTT (goal 50-60+) q12, tolerating 60-65
   .
   # Encephalopathy: worsening, not following commands.  Portuguese is 1st
   language.  Seems to be slightly more alert went cardiac index is higher
   suggesting that some componenet of encephalopathy might be
   hypoperfusion
   - continue to monitor exam.
   ICU Care
   Nutrition:
   Nutren 2.0 (Full) - [**2145-12-5**] 10:00 AM 10 mL/hour
   Glycemic Control:  insulin
   Lines:
   PA Catheter - [**2145-11-25**] 06:46 PM
   Arterial Line - [**2145-11-30**] 12:45 PM
   Dialysis Catheter - [**2145-12-4**] 10:38 AM
   Prophylaxis:
   DVT: bival gtt
   Stress ulcer: IV PPI
   VAP:  VAP bundle
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition: CCU, pending improvement
   ------ Protected Section ------
   Cardiology Teaching Physician Note
   [**Name Initial (PRE) **] have seen and examined the patient. I have reviewed the above note
   and plans.
   I have also reviewed the notes of Dr(s). [**Name (NI) 2589**].
   I would add the following remarks:
   Medical Decision Making
   His mixed venous saturation has risen from the 50s and is consistently
   above 60%. His Cardiac Indexis 2.2 li/min/m2 which is improved from the
   1.4 to 1.5 range. If he tolerates P2 and has improved LV function with
   a preserved CI, then Dr. [**First Name (STitle) **] indicated the Impella device can be
   removed.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) 3287**], MD
   on:[**2145-12-6**] 10:24 ------

2145-12-07 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - impella turned down to p2
   - TTE showed unchanged EF
   - meeting between transplant, liver, Dr. [**First Name (STitle) **], and our team will be
   tomorrow at 12:30pm in the [**Hospital Unit Name **]
   - mvO2 in the 40s, hct stable at 33, no pRBC given
   - femoral HD line not working, CVVH on hold. renal wants IR to put in a
   new line
   - IR is reluctant to come up to the floor to put in a new line, but IR
   fellow will talk with his team and possibly put the line in late
   tomorrow morning
   - transplant wants us to discuss TPN tomorrow morning at rounds
   - NPH discontinued, insulin ss continued
   - TF held after midnight for possible impella removal/replacement
   and/or HD line placement
   - pt was in and out of VT throughout the night (10-20sec monomorphic VT
   runs), BP does go down when in VT, K and Mg checked, wnl
   - lidocaine gtt was started for VT
   - agonal breathing and unable to get 02 sat at 0945
   - progressive drop in BP
   - time of death 1035
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Daptomycin - [**2145-12-6**] 02:35 PM
   Micafungin - [**2145-12-7**] 12:32 AM
   Meropenem - [**2145-12-7**] 04:22 AM
   Infusions:
   Bivalirudin (Angiomax) - 0.03 mg/Kg/hour
   Vasopressin - 2.4 units/hour
   Phenylephrine - 7 mcg/Kg/min
   Lidocaine - 2 mg/min
   Other ICU medications:
   Lidocaine - [**2145-12-7**] 02:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2145-12-7**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**47**] AM
   Tmax: 37.8
C (100
   Tcurrent: 37.6
C (99.7
   HR: 158 (137 - 163) bpm
   BP: 57/51(53) {53/39(44) - 74/56(61)} mmHg
   RR: 27 (14 - 44) insp/min
   SpO2: 92%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 82 kg (admission): 86.8 kg
   Height: 70 Inch
    CVP: 15 (10 - 18)mmHg
   PAP: (30 mmHg) / (19 mmHg)
   CO/CI (Fick): (3.2 L/min) / (1.5 L/min/m2)
   Mixed Venous O2% Sat: 39 - 51
   Total In:
                                                                  3,656 mL
                                                                    745 mL
   PO:
   TF:
   IVF:
                                                                  3,536 mL
                                                                    625 mL
   Blood products:
   Total out:
                                                                  1,965 mL
                                                                      0 mL
   Urine:
   NG:
                                                                     25 mL
   Stool:
                                                                    200 mL
   Drains:
   Balance:
                                                                  1,691 mL
                                                                    745 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 92%
   ABG: 7.36/30/60/17/-6
   Physical Examination
   Gen: middle-aged man, lying in bed on back, no spontaneous movements
   HEENT: NC/AT, fixed upward gaze
   Cardio: Tachycardic, regular rhythm, no murmurs
   Pulm: coarse breath sounds throughout as assessed anteriorly with
   scattered wheezes at the left anterior chest
   Abdominal: soft, non-distended, no guarding or masses, + bowel sounds
   Peripheral Vascular: All extremities warm, 3+ edema in lower
   extremities bilaterally, 2+ edema in upper extremities bilaterally,
   stabilization boots on lower extremities (Right radial pulse: Pulse
   palpable), (Left radial pulse: Pulse palpable), (Right DP pulse: No
   pulse by doppler), (Left DP pulse: No pulse by doppler)
   Skin:  Traumatic ecchymoses at base of neck bilaterally
   Neurologic: Does not respond to voice or light, Movement: No
   spontaneous movement, Tone: Not assessed
   Labs / Radiology
   51 K/uL
   11.4 g/dL
   225 mg/dL
   1.5 mg/dL
   17 mEq/L
   3.9 mEq/L
   17 mg/dL
   99 mEq/L
   130 mEq/L
   33.6 %
   9.0 K/uL
        [image002.jpg]
                             [**2145-12-5**]  08:36 PM
                             [**2145-12-6**]  03:57 AM
                             [**2145-12-6**]  04:22 AM
                             [**2145-12-6**]  09:29 AM
                             [**2145-12-6**]  10:05 AM
                             [**2145-12-6**]  01:07 PM
                             [**2145-12-6**]  03:27 PM
                             [**2145-12-6**]  04:53 PM
                             [**2145-12-7**]  05:09 AM
                             [**2145-12-7**]  05:50 AM
   WBC
   10.6
   9.0
   Hct
   32.8
   33
   33.4
   33.6
   Plt
   45
   51
   Cr
   1.0
   1.0
   1.2
   1.5
   TCO2
   21
   22
   23
   20
   18
   Glucose
   83
   111
   164
   250
   225
   Other labs: PT / PTT / INR:23.1/45.9/2.2, CK / CKMB /
   Troponin-T:82/28/10.45, ALT / AST:251/225, Alk Phos / T Bili:96/2.1,
   Amylase / Lipase:17/, Differential-Neuts:83.0 %, Band:2.0 %, Lymph:9.0
   %, Mono:3.0 %, Eos:0.0 %, D-dimer:[**Numeric Identifier 10172**] ng/mL, Fibrinogen:190 mg/dL,
   Lactic Acid:3.1 mmol/L, Albumin:2.7 g/dL, LDH:1415 IU/L, Ca++:8.1
   mg/dL, Mg++:2.3 mg/dL, PO4:3.9 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 8206**] passed at 1035 due to cardiopulmonary collapse despite 3
   pressors and an impella. The choice to intubate was deffered given
   grave prognosis and very poor cardiac status. Transplant hepatology and
   surgery were [**Name (NI) 1850**], as were his heart failure cardiologist and his
   wife. Consensus was achieved regarding management.
   Below is the plan developed prior to these events.
   Mr. [**Known lastname 8206**] is a 57 yo man with alcoholic cirrhosis c/b hepatorenal
   syndrome requiring HD and hepatopulmonary syndrome and HTN s/p liver
   transplant on [**2146-11-15**], with anuric renal failure post-op on CVVH who
   has had a very prolonged hospital course.  He is in CCU for management
   of post-transplant cardiomyopathy with EF of 10%
   .
   # Shock
 Likely cardiogenic, given LV and RV dilation/hypokinesis. TTE
   from [**12-7**] confirmed LVEF  <20%. Etiology could be 'post-transplant cmp,'
   tachycardiomyopathy or hypophosphatemic cardiomyopathy. Potential
   septic component given low grade fever and VRE in Bcx, but WBC normal.
   Impella device, now day 8, turned down to p2 on [**2145-12-6**].  Pressor
   requirement in flux but continues on milrinone, phenylephrine and
   vasopressin. CVP
s ranging [**9-19**] over past 24 hours. Patient not
   candidate for cardiac transplant per [**Hospital1 **] cardiac surgery team.  As
   patient has not demonstrated expected recovery following transplant,
   plan & expectations for care requires refinement and multiple care
   teams will meet today to discuss.
   - Inter-team meeting today at 12:30PM (transplant, liver, Dr. [**First Name (STitle) **] to
   discuss further management
   - S/p impella placement (Day 8 = [**2145-12-7**]), turned down to p2 on [**2145-12-6**].
   Will discuss removal vs. replacement in inter-team meeting today.
   - Continue dapto (VRE), micafungin ([**Female First Name (un) 444**]) and [**Last Name (un) **] (broad gram neg
   coverage)
   - Monitor hemodynamic: goal CI> 1.8, attempt to raise CVP to low 20s,
   MAP > 60
   - cont milirinone gtt with phenylephrine, vasopressin. If hemodynamics
   acceptable, can consider weaning phenylephrine further to minimize
   liver injury.
   - Replete phos to goal of 3.0
   - f/u blood cultures, all demonstrate NTGD since positive Enteroccocal
   culture from [**12-2**]
   - c/w thiamine replacement
   .
   # Atrial tachycardia with intermittent VT
 Patient with more frequent
   runs of VT, requiring Lidocaine gtt overnight.
   Exact etiology unclear. Seems to be tolerating tachycardia: would avoid
   rate control unless persistently above 180. Cardioversion is not an
   option with multiple pressors and impella in place. His best responses
   have been to blood transfusion.
   - monitor on tele
   - Daily ECGs
   .
   # Anuric renal failure - Likely [**1-4**] hepatorenal syndrome. CVVH filter
   clotted and replaced on [**2145-12-5**], clotted again on [**2145-12-6**] so CVVH on
   hold. Renal requesting that IR replace line & IR is aware. Cr slightly
   elevated this AM to 1.5 in context of held CVVH.
   - Discuss replacing line with IR this AM
   - Continue CVVH if line replaced
   - F/U renal recs
   - lytes repletion per renal scale
   - straight cath every other day
   .
   # Liver failure [**1-4**] alcholic cirrohsis - s/p liver transplant on
   [**11-15**].  LFTs abnormalities developed in the setting of high pressor
   requirements. LFT
s with slight variations, but overall stable. Hepatic
   vasculature patent per U/S. Cellcept d/c'd on [**2144-12-5**].
   - consider weaning phenylephrine to improve transplant perfusion as
   patient tolerates
   - transplant surgery recs appreciated
   - continue prednisone 15mg PO daily, continue tacrolimus, redose daily
   based on level.  check tacrolimus level daily at 6 am per Tx team, goal
   tacro level [**5-10**].
   - monitor LFTs daily
   - cont prophylaxis with valganclovir (dose confirmed with pharmacy) and
   bactrim
   .
   # Hypophosphatemia -  Resolved with aggressive repletion on [**2145-12-6**].
   Likely [**1-4**] refeeding syndrome and liver injury with regeneration. Need
   to maintain appropriate level to minimize hypophosphatemia-associated
   cardiomyopathy.
   - Replete PRN to goal of 3
   .
   # Acute on Chronic Anemia: HCT 33.6. Hemolysis labs positive. [**Month (only) 11**] have
   shear stress on RBCs [**1-4**] impella.
   - IV protonix 40mg Q12
   - continue EPO 4000 units
   - monitor Hct daily
   .
   # Hyperglycemia: Patient not known diabetic, but had elevated blood
   sugars on steroids.  NPH held in context of episode of hypoglycemia on
   [**2145-12-5**] (no TF
s vs. liver failure), now just on sliding scale.
   - continue sliding scale.  monitor FS.
   .
   # Thrombocytopenia: PLT count 51 on [**2145-12-7**]. Platelets nadir was 16,
   last PLT transfusion [**2145-12-4**].  HIT-Ab neg from [**2145-12-4**].
   - Cont to monitor. No transfusion for now
   - Treating as HIT, continue bival
   .
   # Hepatic vein thrombosis: s/p thrombectomy prior to surgery. Was on
   heparin but then may have had clot on left femoral while therapeutic on
   heparin, related to possible HIT or impella. [**Month (only) 11**] also require higher
   doses of anticoagulation due to vasoconstriction from pressors leading
   to lower bioavailability.
   - continue bivalrudin gtt at current dose for now. Not currently on
   CVVH as line fem line is not working, but IR may replace later today
   after discussion with team
   - monitor PTT (goal 50-60+) q12, tolerating 60-65
   .
   # Encephalopathy
 No communication, purposeful movement.  More alert
   with higher cardiac index suggesting that some component of
   encephalopathy may be hypoperfusion
   - continue to monitor closely
   ICU Care
   Nutrition: TF
s held after MN for possible procedure
   Glycemic Control:  Insulin sliding scale
   Lines:
   PA Catheter - [**2145-11-25**] 06:46 PM
   Arterial Line - [**2145-11-30**] 12:45 PM
   Dialysis Catheter - [**2145-12-4**] 10:38 AM
   Prophylaxis:
   DVT: Boots(Bivalrudin gtt )
   Stress ulcer: IV Pantoprazole
   VAP:
   Need for restraints reviewed
   Comments:
   Communication:  Patient
s wife Comments:
   [**Name2 (NI) 129**] status: DNR (do not resuscitate)
   Disposition: